2148-06-13 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2148-6-12**] 09:33 AM
 INVASIVE VENTILATION - START [**2148-6-12**] 10:30 AM
 ULTRASOUND - At [**2148-6-12**] 11:02 AM
 EKG - At [**2148-6-12**] 11:30 PM
 FEVER - 104.5
F - [**2148-6-13**] 12:00 AM
   - BCx [**3-18**] GPCs in pairs
   - Zosyn changed to ceftriaxone and clindamycin
   - Was dyssynchronous with the ventilator on versed and fentanyl
   requiring cisatracurium paralyzation.
   - Given IVIG
   - Maxed out on norephineprhine, phenylephrine, vasopression,  and
   dopamine started for MAPS in 50s
   - Started xigris
   - RUQ u/s showed edematous gallbladder
   - Bedside u/s showed no obvious L pleural effusion to tap
   Allergies:
   Erythromycin Base
   Hives;
   Biaxin (Oral) (Clarithromycin)
   Unknown; Hives;
   Ciprofloxacin
   gum pain;
   Last dose of Antibiotics:
   Piperacillin - [**2148-6-12**] 12:00 PM
   Vancomycin - [**2148-6-12**] 11:00 PM
   Clindamycin - [**2148-6-13**] 04:01 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Dopamine - 2 mcg/Kg/min
   Norepinephrine - 0.5 mcg/Kg/min
   Phenylephrine - 5 mcg/Kg/min
   Cisatracurium - 0.07 mg/Kg/hour
   Drotrecogin (Xigris) - 24 mcg/Kg/hour
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2148-6-12**] 10:30 AM
   Fentanyl - [**2148-6-12**] 11:08 AM
   Pantoprazole (Protonix) - [**2148-6-12**] 02:32 PM
   Heparin Sodium (Prophylaxis) - [**2148-6-12**] 04:30 PM
   Cisatracurium - [**2148-6-12**] 04:50 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2148-6-12**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-6-13**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.3
C (104.5
   Tcurrent: 40
C (104
   HR: 119 (101 - 121) bpm
   BP: 86/56(65) {69/44(56) - 201/79(112)} mmHg
   RR: 35 (22 - 43) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
    CVP: 17 (7 - 302)mmHg
   CO/CI (Fick): (8.9 L/min) / (4 L/min/m2)
   SvO2: 76%
   Mixed Venous O2% Sat: 76 - 76
   Total In:
                                                                 14,484 mL
                                                                  1,857 mL
   PO:
   TF:
   IVF:
                                                                 13,964 mL
                                                                  1,857 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    604 mL
                                                                     35 mL
   Urine:
                                                                    304 mL
                                                                     35 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                 13,880 mL
                                                                  1,822 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 380 (380 - 400) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 100%
   PIP: 36 cmH2O
   Plateau: 34 cmH2O
   Compliance: 27.1 cmH2O/mL
   SpO2: 92%
   ABG: 7.24/58/86/24/-3
   Ve: 14.2 L/min
   PaO2 / FiO2: 86
   Physical Examination
   Gen: intubated, sedated, paralyzed
   HEENT: tube in place
   CV: distant HS,
   Chest: decreased BS at bases
   Abd: obese, sof
   Ext: cool
   Skin: petechiae
   Neuro: sedated and paralyzed
   Labs / Radiology
   175 K/uL
   14.4 g/dL
   261 mg/dL
   3.5 mg/dL
   24 mEq/L
   3.4 mEq/L
   42 mg/dL
   96 mEq/L
   134 mEq/L
   42.2 %
   28.9 K/uL
        [image002.jpg]
                             [**2148-6-12**]  03:42 PM
                             [**2148-6-12**]  03:59 PM
                             [**2148-6-12**]  05:21 PM
                             [**2148-6-12**]  06:13 PM
                             [**2148-6-12**]  07:20 PM
                             [**2148-6-12**]  10:04 PM
                             [**2148-6-12**]  11:31 PM
                             [**2148-6-13**]  02:47 AM
                             [**2148-6-13**]  03:08 AM
                             [**2148-6-13**]  04:37 AM
   WBC
   24.9
   26.8
   28.9
   Hct
   43.9
   42.1
   42.2
   Plt
   247
   231
   175
   Cr
   2.4
   3.0
   3.5
   TCO2
   23
   23
   24
   25
   28
   27
   26
   Glucose
   [**Telephone/Fax (3) 7217**]
   Other labs: PT / PTT / INR:18.0/122.9/1.6, ALT / AST:81/66, Alk Phos /
   T Bili:61/1.1, Fibrinogen:323 mg/dL, Lactic Acid:3.5 mmol/L,
   Albumin:3.3 g/dL, Ca++:7.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 57 yo man with HIV, h/o splenectomy, presents with acute onset of
   fevers, chills, hypotension, now with septic shock and worsening renal
   failure.
   .
   #. Fevers: Pt presented c/ rigors and fevers, only localizing factor
   was mild abdominal tenderness and diarrhea, as well as progressing
   hypoxia. Was febrile and hypotension in ED. [**3-18**] BCx ([**6-12**] 1 am) growing
   GPCs in pairs now with septic shock. Continues to be febrile to 103s.
   - RUQ u/s demonstrated edematous gallbladder
   - CXR shows left pleural effusion but no obvious fluid collection on
   bedside ultrasound to tap
   - Consult IP this am to repeat ultrasound
   - Sputum cx gram stain 1+ GPCs in pairs, 1+ GN diplococci
   - Continue vancomycin, ceftriaxone, and clindamycin
   - Treated with IVIG for concern for group A strep, will d/c today as ?
   contributing to fevers o/n and of questionable benefit
   - Started on xigris
   - Follow coags as on zigris, hold heparin SQ while on zigris
   - Appreciate ID recs
   - Continue tylenol prn, cooling blanket
   - Follow up BCx
       - [**6-12**] 1 am: [**3-18**] GPCs in pairs
       - [**6-12**] 11 am: NGTD
       - [**6-12**] 11 pm: NGTD
       - [**6-13**]: pending
   - Follow wbc curve, lactate
   .
   #. Hypotension: Sepsis secondary to gram positive cocci in blood.
   Required multiple fluid boluses and four pressors to keep MAP 55-60s
   o/n.  On maximum dose of levophed, neosynephrine, and vasopressin, and
   started on dopamine last night.
   - Continue pressors as needed to maintain MAP>50
   - IVF bolus with D5 bicarb  as needed
   - Xigris started o/n
   - q 6 hour DIC labs
   .
   #. Hypoxia: Intubated yesterday, now sating 92% on 100 % FiO2 and PEEP
   increased to 20 overnight. Was dyssynchronous with the ventilator on
   versed and fentanyl requiring cisatracurium paralyzation. Last ABG
   7.24/58/86.
   - will place esophageal balloon today to monitor pressures
   - daily breaks from paralysis to assess sedation and need for paralysis
   - repeat CXR this am
   - on ARDS vent settings
   - wean O2 as tolerated
   .
   #. Decreased UOP: No history of kidney disease. Initial Cr within
   normal limits and UA unremarkable. Worsening creatinine and decreasing
   UOP over course of admission, Cr now 3.5 and has made 35 ccs of urine
   since midnight.
   - renal c/s today for HD line for access and in preparation for likely
   CVVHD.
   .
   #. DM type 2: cover with insulin sliding scale
   -consider acting on longer acting [**Doctor Last Name **] for better glucose control
   .
   #. Hypercholesterolemia: cont lipitor
   .
   #. FEN: NPO, replete lytes prn, IVF as above
   ICU Care
   Nutrition:
   Glycemic Control:  ISS
   Lines:
   RIJ Multi Lumen - [**2148-6-12**] 05:46 AM
   16 Gauge - [**2148-6-12**] 05:48 AM
   20 Gauge - [**2148-6-12**] 05:48 AM
   Arterial Line - [**2148-6-12**] 09:33 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: SQH (holding while on xigris)
   VAP:
   Comments:
   Communication:  Comments: - partner [**Name (NI) 2632**] [**Name (NI) 7206**] (HCP) [**Telephone/Fax (1) 7207**]
   Code status: Full code
   Disposition: ICU

2148-06-14 06:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2148-6-13**] 07:49 PM
   -Climbing WBC upto 48.3, lactate 5.1
   -Renal put in HD cath, started CVVH
   -CXR shows decreased pulm edema, effusions, but ?aspiration, L
   retrocardiac opacity
   -cysatricurium weaned off at 2pm yesterday.
   -weaned FiO2 to 50% this AM
   -standing tylenol for fever control
   -continued on 4 pressors overnight, on maximum of levophed and
   phenylephrine
   -weaned Dopamine off at 6:30am
   -started 50mg IV hydrocortisone q8h
   - 25g albumin x2
   - IVFs w/ bicarb
   Allergies:
   Erythromycin Base
   Hives;
   Biaxin (Oral) (Clarithromycin)
   Unknown; Hives;
   Ciprofloxacin
   gum pain;
   Last dose of Antibiotics:
   Piperacillin - [**2148-6-12**] 12:00 PM
   Vancomycin - [**2148-6-13**] 09:56 PM
   Clindamycin - [**2148-6-14**] 03:01 AM
   Ceftriaxone - [**2148-6-14**] 05:58 AM
   Infusions:
   Dopamine - 1 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Midazolam (Versed) - 4 mg/hour
   Vasopressin - 2.4 units/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Norepinephrine - 0.5 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-6-13**] 04:00 PM
   Pantoprazole (Protonix) - [**2148-6-13**] 11:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-6-14**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.9
C (103.9
   Tcurrent: 36.6
C (97.8
   HR: 105 (105 - 127) bpm
   BP: 88/48(63) {70/39(49) - 118/60(79)} mmHg
   RR: 35 (0 - 36) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
    CVP: 17 (16 - 20)mmHg
   CO/CI (Fick): (9.7 L/min) / (4.4 L/min/m2)
   SvO2: 78%
   Bladder pressure: 27 (27 - 27) mmHg
   Total In:
                                                                 10,073 mL
                                                                  4,111 mL
   PO:
   TF:
   IVF:
                                                                  9,823 mL
                                                                  3,861 mL
   Blood products:
                                                                    250 mL
                                                                    250 mL
   Total out:
                                                                    346 mL
                                                                  2,067 mL
   Urine:
                                                                     85 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,727 mL
                                                                  2,044 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 32 cmH2O
   SpO2: 95%
   ABG: 7.22/54/105/21/-6
   Ve: 11.9 L/min
   PaO2 / FiO2: 210
   Physical Examination
   Gen: intubated, sedated
   HEENT: tube in place. NCAT.
   CV: distant HS,  No murmurs heard.
   Chest: CTAB on anterior exam
   Abd: obese, soft, NT, ND. No rebound or guarding
   Ext: cool. Mottling of bottom of feet and toes bilaterally.
   Skin: petechiae on bottom of right foot.
   Labs / Radiology
   23 K/uL
   12.4 g/dL
   201 mg/dL
   3.9 mg/dL
   21 mEq/L
   4.4 mEq/L
   39 mg/dL
   94 mEq/L
   133 mEq/L
   37.1 %
   48.3 K/uL
        [image002.jpg]
   Micro
   [**6-12**] Blood cultures 2 out of 4 bottles growing GPCs in pairs and chains
   [**6-13**], [**6-14**] Blood cultures NGTD
                             [**2148-6-13**]  12:45 PM
                             [**2148-6-13**]  04:06 PM
                             [**2148-6-13**]  06:16 PM
                             [**2148-6-13**]  06:30 PM
                             [**2148-6-13**]  08:17 PM
                             [**2148-6-13**]  08:28 PM
                             [**2148-6-14**]  01:00 AM
                             [**2148-6-14**]  01:16 AM
                             [**2148-6-14**]  04:03 AM
                             [**2148-6-14**]  04:13 AM
   WBC
   37.1
   43.6
   45.9
   48.3
   Hct
   40.7
   41.9
   40.5
   37.1
   Plt
   101
   60
   40
   23
   Cr
   4.3
   4.7
   4.2
   3.9
   TCO2
   27
   27
   26
   26
   23
   Glucose
   [**Telephone/Fax (3) 7242**]01
   Other labs: PT / PTT / INR:18.7/77.0/1.7, ALT / AST:257/195, Alk Phos /
   T Bili:123/1.6, Amylase / Lipase:/35, Fibrinogen:307 mg/dL, Lactic
   Acid:5.2 mmol/L, Albumin:2.4 g/dL, LDH:497 IU/L, Ca++:6.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
   57 yo man with HIV, h/o splenectomy, presents with acute onset of
   fevers, chills, hypotension, now with septic shock and worsening renal
   failure.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Pt presented with rigors and fevers, only localizing factor was mild
   abdominal tenderness and diarrhea, as well as progressing hypoxia. Was
   febrile and hypotension in ED. [**3-18**] BCx ([**6-12**] 1 am) growing GPCs in
   pairs now with septic shock. Continues to be febrile to 103s. Continues
   to require four pressors and intermittent fluid boluses to keep MAPs of
   55.  On maximum dose of levophed and phenylephrine.  Also on
   Vasopressin. Weaned off dopamine this AM.  Received one dose of IVIG on
   [**6-13**] for concern for group A strep.  Xigris held overnight [**3-18**] PTT of
   150, and concern for bleeding.
   -continue pressors and IV fluid bolus to maintain MAP>50
   -continue IV hydrocortisone 50g q 8 hours (day 1 = [**6-13**])
   - received 25g IV albumin x2 overnight. Will not continue this
   - Sputum cx gram stain 1+ GPCs in pairs, 1+ GN diplococci
   - Continue vancomycin and clindamycin. Consider discontinuing
   Ceftriaxone. Will speak with ID regarding their thoughts on this.
   - Appreciate ID recs
   -continue CVVH
   - Will change standing Tylenol to PRN. If febrile, please give Tylenol.
   - Follow up BCx
   - Follow wbc curve, lactate
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Intubated [**6-12**], now tolerating FiO2 of 50% and PEEP increased to 20
   overnight. No longer requiring paralytic. Last ABG 7.21/56/98.
   -Speak with IP regarding whether there is a loculated effusion that
   would be drainable
   - repeat CXR this am
   - on ARDS vent settings
   - wean O2 as tolerated
   THROMBOCYTOPENIA: Plts 23 today.  Differential includes DIC, TTP, HIT.
   Will stop medications which may be contributing including PPI.
   -start Carafate for stress ulcer prophylaxis
   -obtain peripheral smear, D-dimer
   -hold heparin, including heparin fluishes
   -send HIT Ab
   -Hematology consult regarding if this is DIC, whether APC would be
   appropriate replacement therapy. Will not restart Xigris until touch
   base with hematology.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   No history of kidney disease. Cr peaked at 4.7 yesterday. Down to 3.9
   this AM.  Urine output 85cc over 24 hours despite aggressive IV fluid
   boluses. Renal placed HD line yesterday, and initiated CVVH last night.
   -follow up renal recs
   -redose medications, change Vanc to 1250mg q24 hours
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   -holding HAART in the setting of overwhelming septic shock
 DIABETES MELLITUS (DM), TYPE II
   cover with insulin sliding scale
   -increase lantus to 12u daily
   -goal blood sugars 150-200
 SPLENECTOMY
 INEFFECTIVE COPING
   -social work consult
continue to eval
   .
   .
   #. FEN: NPO for now, replete lytes prn, IVF as above. Will consider TFs
   vs. TPN in [**4-17**] days, depending on how patient recovers.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-6-12**] 05:46 AM
   16 Gauge - [**2148-6-12**] 05:48 AM
   20 Gauge - [**2148-6-12**] 05:48 AM
   Arterial Line - [**2148-6-12**] 09:33 AM
   Dialysis Catheter - [**2148-6-13**] 07:49 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: Carafate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Critical Care
   Remains profoundly ill. Temp down on CVVH. Precipitous drop in plt ct.
   Heme thinks this is poor production rather than DIC or meds.  No active
   bleeding. We have weaned pressors substantially, weaned FIO2 to 0.4.
   Still awaiting ID of GPC in blood. Na down
 will discuss with Renal
   how to manage Na with his bath.  Family aware of how sick he remains.
   Time spent 65 min
   Critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2148-6-14**] 19:29 ------

2148-06-15 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2148-6-14**] 11:15 AM
   -Platelets to 10K, 1 bag of platelets given, increased to 39
   -D/C'ed ceftriaxone per ID given interaction with calcium gluconate on
   CVVH
   -DIC labs, increased D-dimer, fibrin degradation products
   -Heme/Onc does not believe plt drop is DIC, believes it is suppression
   of marrow due to sepsis
   -Dopamine weaned off, on CVVH
   -Sodium up to 130
s from high 120
   Allergies:
   Erythromycin Base
   Hives;
   Biaxin (Oral) (Clarithromycin)
   Unknown; Hives;
   Ciprofloxacin
   gum pain;
   Last dose of Antibiotics:
   Piperacillin - [**2148-6-12**] 12:00 PM
   Ceftriaxone - [**2148-6-14**] 05:58 AM
   Vancomycin - [**2148-6-14**] 08:29 PM
   Clindamycin - [**2148-6-15**] 03:32 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Vasopressin - 2.4 units/hour
   Fentanyl (Concentrate) - 70 mcg/hour
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   Norepinephrine - 0.43 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-6-15**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.8
   HR: 84 (83 - 99) bpm
   BP: 96/53(66) {92/43(58) - 143/69(91)} mmHg
   RR: 35 (34 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 17 (11 - 22)mmHg
   CO/CI (Fick): (10 L/min) / (4.4 L/min/m2)
   SvO2: 80%
   Mixed Venous O2% Sat: 78 - 78
   Total In:
                                                                 12,572 mL
                                                                  1,497 mL
   PO:
   TF:
                                                                     31 mL
   IVF:
                                                                 11,884 mL
                                                                  1,497 mL
   Blood products:
                                                                    547 mL
   Total out:
                                                                 10,351 mL
                                                                  1,624 mL
   Urine:
                                                                     48 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,221 mL
                                                                   -127 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   Compliance: 38 cmH2O/mL
   SpO2: 98%
   ABG: 7.30/56/113/24/0
   Ve: 13 L/min
   PaO2 / FiO2: 283
   Physical Examination
   Gen: intubated, sedated
   HEENT: tube in place. NCAT.
   CV: distant HS,  No murmurs heard.
   Chest: CTAB on anterior exam
   Abd: obese, soft, NT, ND. No rebound or guarding
   Ext: Warm and more perfused than yest.  Mottling of bottom of feet and
   toes bilaterally.
   Skin: petechiae on bottom of right foot.
   Labs / Radiology
   19 K/uL
   11.7 g/dL
   135 mg/dL
   2.5 mg/dL
   24 mEq/L
   4.1 mEq/L
   25 mg/dL
   94 mEq/L
   132 mEq/L
   34.8 %
   44.5 K/uL
        [image002.jpg]
                                     pH
                                    7.30
                                    pCO2
                                     56
                                     pO2
                                     113
                                    HCO3
                                     29
                                   BaseXS
                                      0
                             [**2148-6-14**]  10:17 AM
                             [**2148-6-14**]  02:18 PM
                             [**2148-6-14**]  03:40 PM
                             [**2148-6-14**]  05:30 PM
                             [**2148-6-14**]  05:38 PM
                             [**2148-6-14**]  06:48 PM
                             [**2148-6-14**]  09:25 PM
                             [**2148-6-14**]  11:00 PM
                             [**2148-6-15**]  04:30 AM
                             [**2148-6-15**]  04:41 AM
   WBC
   45.9
   44.7
   44.5
   Hct
   37.5
   36.6
   34.8
   Plt
   10
   11
   39
   23
   19
   Cr
   3.1
   2.7
   2.5
   TCO2
   23
   27
   28
   26
   29
   Glucose
   [**Telephone/Fax (3) 7264**]
   Other labs: PT / PTT / INR:16.9/42.6/1.5, ALT / AST:210/131, Alk Phos /
   T Bili:180/2.2, Amylase / Lipase:/35, D-dimer:[**Numeric Identifier 7265**] ng/mL,
   Fibrinogen:424 mg/dL, Lactic Acid:2.5 mmol/L, Albumin:2.8 g/dL, LDH:337
   IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   57 yo man with HIV, h/o splenectomy, presents with acute onset of
   fevers, chills, hypotension, now with septic shock and worsening renal
   failure.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Pt presented with rigors and fevers, only localizing factor was mild
   abdominal tenderness and diarrhea, as well as progressing hypoxia. Was
   febrile and hypotension in ED. [**3-18**] BCx ([**6-12**] 1 am) growing GPCs in
   pairs now with septic shock. Continues to be febrile to 103s. Patient
   now off of dopamine and phenylephrine, on lower dose of levophed and on
   vasopression, MAP holding in high 60
s.  Received one dose of IVIG on
   [**6-13**] for concern for group A strep.  Xigris held overnight [**3-18**] PTT of
   150, and concern for bleeding, continues to be held.
   -continue pressors and IV fluid bolus to maintain MAP>50
   -continue IV hydrocortisone 50g q 8 hours (day 1 = [**6-13**])
   - Sputum cx gram stain 1+ GPCs in pairs, 1+ GN diplococci
   - Continue vancomycin and clindamycin.
   - Appreciate ID recs
   -continue CVVH
   - Tylenol PRN
   - Follow up BCx
   - Follow wbc curve, lactate
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Intubated [**6-12**], now tolerating FiO2 of 40% and PEEP at 20. Last ABG
   7.30/56/113
   -IP did not think that they would intervene on anything at the moment,
   though may take a look this AM for any loculated pleural effusions
   - on ARDS vent settings
   - wean vent as tolerated
   THROMBOCYTOPENIA: Plts 23 after repletion with 1 bag.  Heme onc thinks
   unlikely to be DIC, more likely to be marrow suppression from sepsis.
   Peripheral smear shows no schistocytes, d-dimer, FDP increased.  HIT ab
   also sent, holding heparin and all medications that cause
   thrombocytopenia.  Replete if under 10K, no active bleeding
   - Continue to monitor plts
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   No history of kidney disease. Cr peaked at 4.7 on [**6-13**]. Down to 2.5
   this AM.  On CVVH, held at even.   Also hyponatremic to 128 yesterday,
   stopped D5W with bicarbonate, now up to 132, renal was made aware.
   -follow up renal recs
   -redose medications, changed Vanc to 1250mg q24 hours
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   -holding HAART in the setting of overwhelming septic shock
 DIABETES MELLITUS (DM), TYPE II
   cover with insulin sliding scale
   -lantus at 12u daily
   -goal blood sugars 150-200
 SPLENECTOMY
 INEFFECTIVE COPING
   -social work consult
continue to eval
   .
   .
   #. FEN: NPO for now, replete lytes prn, IVF as above. Will consider TFs
   vs. TPN in [**3-19**] days, depending on how patient recovers.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-6-12**] 05:46 AM
   16 Gauge - [**2148-6-12**] 05:48 AM
   20 Gauge - [**2148-6-12**] 05:48 AM
   Arterial Line - [**2148-6-12**] 09:33 AM
   Dialysis Catheter - [**2148-6-13**] 07:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-06-15 09:36:00 Physician Attending Progress Note
Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2148-6-14**] 11:15 AM
   Dopamine off
   Weaning Neo - small wean to Levophed but MAPs at 60
   No shisto on smear - plts back down to 19
   Lactate trending down
   Allergies:
   Erythromycin Base
   Hives;
   Biaxin (Oral) (Clarithromycin)
   Unknown; Hives;
   Ciprofloxacin
   gum pain;
   Last dose of Antibiotics:
   Piperacillin - [**2148-6-12**] 12:00 PM
   Ceftriaxone - [**2148-6-14**] 05:58 AM
   Vancomycin - [**2148-6-14**] 08:29 PM
   Clindamycin - [**2148-6-15**] 03:32 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl (Concentrate) - 70 mcg/hour
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.4 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-6-15**] 09:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.6
   HR: 85 (79 - 97) bpm
   BP: 98/53(67) {92/43(58) - 143/69(91)} mmHg
   RR: 35 (35 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 15 (11 - 22)mmHg
   CO/CI (Fick): (9.4 L/min) / (4.2 L/min/m2)
   SvO2: 79%
   Mixed Venous O2% Sat: 78 - 78
   Total In:
                                                                 12,572 mL
                                                                  1,881 mL
   PO:
   TF:
                                                                     31 mL
   IVF:
                                                                 11,884 mL
                                                                  1,881 mL
   Blood products:
                                                                    547 mL
   Total out:
                                                                 10,351 mL
                                                                  1,925 mL
   Urine:
                                                                     48 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,221 mL
                                                                    -44 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   Compliance: 38 cmH2O/mL
   SpO2: 98%
   ABG: 7.30/56/113/24/0
   Ve: 13.2 L/min
   PaO2 / FiO2: 283
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Diminished: )
   Abdominal: Soft, Distended
   Extremities: Right: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.7 g/dL
   19 K/uL
   135 mg/dL
   2.5 mg/dL
   24 mEq/L
   4.1 mEq/L
   25 mg/dL
   94 mEq/L
   132 mEq/L
   34.8 %
   44.5 K/uL
        [image002.jpg]
                             [**2148-6-14**]  10:17 AM
                             [**2148-6-14**]  02:18 PM
                             [**2148-6-14**]  03:40 PM
                             [**2148-6-14**]  05:30 PM
                             [**2148-6-14**]  05:38 PM
                             [**2148-6-14**]  06:48 PM
                             [**2148-6-14**]  09:25 PM
                             [**2148-6-14**]  11:00 PM
                             [**2148-6-15**]  04:30 AM
                             [**2148-6-15**]  04:41 AM
   WBC
   45.9
   44.7
   44.5
   Hct
   37.5
   36.6
   34.8
   Plt
   10
   11
   39
   23
   19
   Cr
   3.1
   2.7
   2.5
   TCO2
   23
   27
   28
   26
   29
   Glucose
   [**Telephone/Fax (3) 7264**]
   Other labs: PT / PTT / INR:16.9/42.6/1.5, ALT / AST:210/131, Alk Phos /
   T Bili:180/2.2, Amylase / Lipase:/35, D-dimer:[**Numeric Identifier 7265**] ng/mL,
   Fibrinogen:424 mg/dL, Lactic Acid:2.5 mmol/L, Albumin:2.8 g/dL, LDH:337
   IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Severe Sepsis: source likely strep- awaiting final speciation
   Keeping Map at 60-65, have taken off Neo, trying to wean Levo
   IV hydrocort,
   Vanco Clinda follow up cultures
   ARDS: Improving oxygenation and ventilation, may try to wean rate
   slightly if stable PCo2 recheck ballom pressures to titrate PEEP
   ESRD and metabolic dissary and massive volume overload - CVVH to run
   even
   Thrombocytopenia DDX sepsis, DIC, meds: Tx for less than 10 K.
   Remaining issues as per Housestaff Notes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-6-12**] 05:46 AM
   16 Gauge - [**2148-6-12**] 05:48 AM
   20 Gauge - [**2148-6-12**] 05:48 AM
   Arterial Line - [**2148-6-12**] 09:33 AM
   Dialysis Catheter - [**2148-6-13**] 07:49 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: sucralfate
   VAP: HOB chlorhex
   Communication:  family
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2148-06-16 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2148-6-15**] 10:20 AM
 STOOL CULTURE - At [**2148-6-15**] 10:23 PM
   specimen sent for c. diff
   -PEEP decreased to 16
   -cultures growing strep viridans
   Allergies:
   Erythromycin Base
   Hives;
   Biaxin (Oral) (Clarithromycin)
   Unknown; Hives;
   Ciprofloxacin
   gum pain;
   Last dose of Antibiotics:
   Ceftriaxone - [**2148-6-14**] 05:58 AM
   Vancomycin - [**2148-6-15**] 08:52 PM
   Clindamycin - [**2148-6-16**] 04:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.03 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-6-16**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.3
   HR: 81 (79 - 94) bpm
   BP: 116/53(67) {77/44(55) - 124/63(82)} mmHg
   RR: 35 (35 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 10 (10 - 19)mmHg
   CO/CI (Fick): (14.5 L/min) / (6.5 L/min/m2)
   SvO2: 87%
   Mixed Venous O2% Sat: 84 - 84
   Total In:
                                                                  5,084 mL
                                                                  1,543 mL
   PO:
   TF:
   IVF:
                                                                  4,994 mL
                                                                  1,393 mL
   Blood products:
   Total out:
                                                                  5,059 mL
                                                                  1,476 mL
   Urine:
                                                                     10 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     25 mL
                                                                     67 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 40%
   PIP: 31 cmH2O
   SpO2: 100%
   ABG: 7.28/50/114/22/-3
   Ve: 12.9 L/min
   PaO2 / FiO2: 285
   Physical Examination
   Gen: intubated, sedated
   HEENT: tube in place. NCAT.
   CV: distant HS,  No murmurs heard.
   Chest: CTAB on anterior exam
   Abd: obese, soft, ND
   Ext: Warm and
   Skin: petechiae b/l foot, 1 cm area of purpura c/ central erosion R
   posterior heel
   Labs / Radiology
   34 K/uL
   11.1 g/dL
   120 mg/dL
   1.9 mg/dL
   22 mEq/L
   3.9 mEq/L
   25 mg/dL
   96 mEq/L
   133 mEq/L
   33.0 %
   45.5 K/uL
        [image002.jpg]
                             [**2148-6-15**]  04:41 AM
                             [**2148-6-15**]  10:10 AM
                             [**2148-6-15**]  10:21 AM
                             [**2148-6-15**]  04:25 PM
                             [**2148-6-15**]  04:30 PM
                             [**2148-6-15**]  07:53 PM
                             [**2148-6-15**]  10:50 PM
                             [**2148-6-16**]  02:15 AM
                             [**2148-6-16**]  04:55 AM
                             [**2148-6-16**]  05:02 AM
   WBC
   44.3
   39.4
   45.5
   Hct
   35.0
   34.5
   33.0
   Plt
   15
   34
   34
   Cr
   2.2
   2.1
   1.9
   TCO2
   29
   29
   28
   28
   26
   24
   Glucose
   118
   109
   127
   120
   Other labs: PT / PTT / INR:17.2/39.6/1.6, ALT / AST:175/166, Alk Phos /
   T Bili:257/2.9, Amylase / Lipase:/35, D-dimer:[**Numeric Identifier 7265**] ng/mL,
   Fibrinogen:424 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.6 g/dL, LDH:337
   IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   57 yo man with HIV, h/o splenectomy, presents with acute onset of
   fevers, chills, hypotension, now with septic shock and worsening renal
   failure.
   # SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Pt presented with rigors and fevers, only localizing factor was mild
   abdominal tenderness and diarrhea, as well as progressing hypoxia. Was
   febrile and hypotension in ED. [**3-18**] BCx ([**6-12**] 1 am) growing strep
   viridans now with septic shock. Initially required 4 pressors, now off
   of dopamine and phenylephrine, weaning levaphed, also on vasopression,
   MAPs improved.  Received one dose of IVIG on [**6-13**] for concern for group
   A strep.  Also treated with xigris, now being held given
   thrombocytopenia.
   -continue to wean pressors as tolerated
   -continue IV hydrocortisone 50g q 8 hours (day 1 = [**6-13**])
   - Sputum cx gram stain 1+ GPCs in pairs, 1+ GN diplococci
   - Continue vancomycin and clindamycin.
   - Appreciate ID recs
   -continue CVVH
   - Tylenol prns
   - Follow up BCx, surveillance cultures show no additional positive
   cultures
   - Follow wbc curve, lactate
   - Obtain TEE when stable to evaluate for endocarditis
   # RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Intubated [**6-12**], was initially difficult to ventilate and required
   paralysis with cisatricuronium and FiO2s of 100, PEEP 20, RR of 35. Now
   off paralytic and tolerating FiO2 of 40%. Peep decreased to 16
   yesterday. . Last ABG 7.28/50/114. Per IP no intervention for left
   pleural effusion at this time.
   - on ARDS vent settings
   - wean vent as tolerated
   #THROMBOCYTOPENIA: Developed thrombocytopenia requiring platelet
   transfusion.  Heme onc thinks unlikely to be DIC, more likely to be
   marrow suppression from sepsis.  Peripheral smear shows no
   schistocytes, d-dimer, FDP increased.  HIT ab also sent, holding
   heparin and all medications that cause thrombocytopenia.  Stable over
   last 24 hours, platelets 34 this am.
   - Replete if under 10K or active bleeding
   - Continue to monitor plts
   - f/u hit antibody
   # RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   No history of kidney disease. Cr peaked at 4.7 on [**6-13**]. On CVVH, held
   at even.
   -follow up renal recs
   -redose medications, changed Vanc to 1250mg q24 hours
   .
   # HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   -holding HAART in the setting of overwhelming septic shock
   .
   # DIABETES MELLITUS (DM), TYPE II
   cover with insulin sliding scale
   -lantus at 12u daily
   -goal blood sugars 150-200
   .
   # SPLENECTOMY. Patient up to date on immunizations.
   .
   #. FEN: NPO for now, replete lytes prn, IVF as above. Will consider TFs
   vs. TPN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-6-12**] 05:46 AM
   16 Gauge - [**2148-6-12**] 05:48 AM
   20 Gauge - [**2148-6-12**] 05:48 AM
   Arterial Line - [**2148-6-12**] 09:33 AM
   Dialysis Catheter - [**2148-6-13**] 07:49 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: partner
   [**Name (NI) 36**] status: Full code
   Disposition: ICU

2148-06-16 09:00:00 Physician Attending Progress Note
Chief Complaint: sepsis, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Culture came back as strep viridans
   24 Hour Events:
 BLOOD CULTURED - At [**2148-6-15**] 10:20 AM
 STOOL CULTURE - At [**2148-6-15**] 10:23 PM
   specimen sent for c. diff
   Allergies:
   Erythromycin Base
   Hives;
   Biaxin (Oral) (Clarithromycin)
   Unknown; Hives;
   Ciprofloxacin
   gum pain;
   Last dose of Antibiotics:
   Ceftriaxone - [**2148-6-14**] 05:58 AM
   Vancomycin - [**2148-6-15**] 08:52 PM
   Clindamycin - [**2148-6-16**] 04:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-6-16**] 08:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.3
   HR: 89 (81 - 94) bpm
   BP: 92/46(58) {77/44(55) - 124/63(82)} mmHg
   RR: 35 (35 - 36) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 13 (10 - 19)mmHg
   CO/CI (Fick): (14.5 L/min) / (6.5 L/min/m2)
   SvO2: 87%
   Mixed Venous O2% Sat: 84 - 84
   Total In:
                                                                  5,084 mL
                                                                  1,683 mL
   PO:
   TF:
   IVF:
                                                                  4,994 mL
                                                                  1,533 mL
   Blood products:
   Total out:
                                                                  5,059 mL
                                                                  1,476 mL
   Urine:
                                                                     10 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     25 mL
                                                                    207 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 40%
   PIP: 31 cmH2O
   SpO2: 92%
   ABG: 7.28/50/114/22/-3
   Ve: 12.9 L/min
   PaO2 / FiO2: 285
   Physical Examination
   Gne intunated and sedated
   CV: RR
   Chest poor air movement
   Abd soft NT
   Ext : +++edema
   Labs / Radiology
   11.1 g/dL
   34 K/uL
   120 mg/dL
   1.9 mg/dL
   22 mEq/L
   3.9 mEq/L
   25 mg/dL
   96 mEq/L
   133 mEq/L
   33.0 %
   45.5 K/uL
        [image002.jpg]
                             [**2148-6-15**]  04:41 AM
                             [**2148-6-15**]  10:10 AM
                             [**2148-6-15**]  10:21 AM
                             [**2148-6-15**]  04:25 PM
                             [**2148-6-15**]  04:30 PM
                             [**2148-6-15**]  07:53 PM
                             [**2148-6-15**]  10:50 PM
                             [**2148-6-16**]  02:15 AM
                             [**2148-6-16**]  04:55 AM
                             [**2148-6-16**]  05:02 AM
   WBC
   44.3
   39.4
   45.5
   Hct
   35.0
   34.5
   33.0
   Plt
   15
   34
   34
   Cr
   2.2
   2.1
   1.9
   TCO2
   29
   29
   28
   28
   26
   24
   Glucose
   118
   109
   127
   120
   Other labs: PT / PTT / INR:17.2/39.6/1.6, ALT / AST:175/166, Alk Phos /
   T Bili:257/2.9, Amylase / Lipase:/35, D-dimer:[**Numeric Identifier 7265**] ng/mL,
   Fibrinogen:424 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.6 g/dL, LDH:337
   IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   1. Severe Sepsis: Strep viridans in blood
 source unclear
   Keeping Map at 60-65, have taken off Neo, levophed has weaned
   significantly
   IV hydrocort Day [**5-21**]
   Vanco Clinda both effective  to S viridans
 plan for TEE in AM
   consulting cards
   2. ARDS: Improving oxygenation
 PEEP down to 16 and holdng his own.
   Recheck balloon pressures.  Could try to go down on his rate slightly
   though his still has a lot of dead space and needs sig minute
   ventilation so may not make a lot of progress yet
   3. ESRD and metabolic disarray massive volume overload - CVVH to run
   even, watch Na
   4. Thrombocytopenia DDX sepsis, DIC, meds: Tx for less than 10 K. Bump
   in plts from 15 to 30 this AM- will watch trend Follow up HIT, no
   heprain products
   Remaining issues as per Housestaff Notes
   ICU Care
   Nutrition: low dose tube feeds
 if can
t tolerate by AM may need TPM
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-6-12**] 05:46 AM
   Arterial Line - [**2148-6-12**] 09:33 AM
   Dialysis Catheter - [**2148-6-13**] 07:49 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP: chlorhex, HOB
   Communication:  family updated yesterday
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2148-06-17 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2148-6-16**] 09:20 AM
 SPUTUM CULTURE - At [**2148-6-16**] 06:01 PM
 STOOL CULTURE - At [**2148-6-17**] 12:30 AM
   second c. diff specimen sent
 URINE CULTURE - At [**2148-6-17**] 06:00 AM
   d/c-ed vanc, clinda. Started PCN with one dose of [**Last Name (LF) **], [**First Name3 (LF) **] ID recs
   -weaned off levophed and vasopressin
   Allergies:
   Erythromycin Base
   Hives;
   Biaxin (Oral) (Clarithromycin)
   Unknown; Hives;
   Ciprofloxacin
   gum pain;
   Last dose of Antibiotics:
   Vancomycin - [**2148-6-15**] 08:52 PM
   Clindamycin - [**2148-6-16**] 11:50 AM
   Gentamicin - [**2148-6-16**] 06:10 PM
   Penicillin G potassium - [**2148-6-17**] 06:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2148-6-17**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-6-17**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 35.9
C (96.6
   HR: 94 (77 - 95) bpm
   BP: 129/61(81) {91/46(58) - 141/74(94)} mmHg
   RR: 40 (31 - 3,923) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 14 (8 - 18)mmHg
   CO/CI (Fick): (20 L/min) / (8.9 L/min/m2)
   SvO2: 88%
   Total In:
                                                                  3,545 mL
                                                                    957 mL
   PO:
   TF:
                                                                     65 mL
                                                                    172 mL
   IVF:
                                                                  3,180 mL
                                                                    735 mL
   Blood products:
   Total out:
                                                                  3,315 mL
                                                                  1,375 mL
   Urine:
                                                                      5 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    230 mL
                                                                   -418 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 27 cmH2O
   SpO2: 97%
   ABG: 7.34/44/121/23/-2
   Ve: 14.6 L/min
   PaO2 / FiO2: 303
   Physical Examination
   Gen: intubated, sedated
   HEENT: tube in place. NCAT.
   CV: distant HS,  No murmurs heard.
   Chest: CTAB on anterior exam
   Abd: obese, soft, ND
   Ext: Warm and
   Skin: petechiae b/l foot, 1 cm area of ulceration R posterior heel
   Labs / Radiology
   53 K/uL
   10.2 g/dL
   139 mg/dL
   2.1 mg/dL
   23 mEq/L
   4.9 mEq/L
   35 mg/dL
   97 mEq/L
   133 mEq/L
   29.7 %
   40.4 K/uL
        [image002.jpg]
                             [**2148-6-16**]  04:55 AM
                             [**2148-6-16**]  05:02 AM
                             [**2148-6-16**]  11:31 AM
                             [**2148-6-16**]  11:34 AM
                             [**2148-6-16**]  04:40 PM
                             [**2148-6-16**]  05:02 PM
                             [**2148-6-16**]  10:00 PM
                             [**2148-6-16**]  10:07 PM
                             [**2148-6-17**]  05:31 AM
                             [**2148-6-17**]  05:36 AM
   WBC
   45.5
   44.7
   45.3
   40.4
   Hct
   33.0
   31.6
   31.9
   29.7
   Plt
   34
   44
   49
   53
   Cr
   1.9
   2.3
   2.2
   2.0
   2.1
   TCO2
   24
   24
   25
   27
   25
   Glucose
   120
   134
   123
   138
   139
   Other labs: PT / PTT / INR:15.0/35.9/1.3, ALT / AST:186/303, Alk Phos /
   T Bili:437/5.6, Amylase / Lipase:/35, D-dimer:[**Numeric Identifier 7265**] ng/mL,
   Fibrinogen:424 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL, LDH:712
   IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   57 yo man with HIV, h/o splenectomy, presents with acute onset of
   fevers, chills, hypotension, now with septic shock and worsening renal
   failure.
   # SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Pt presented with rigors and fevers, only localizing factor was mild
   abdominal tenderness and diarrhea, as well as progressing hypoxia. Was
   febrile and hypotension in ED. [**3-18**] BCx ([**6-12**] 1 am) growing strep
   viridans now with septic shock. Initially required 4 pressors, now off
   pressors, MAPs improved.  Received one dose of IVIG on [**6-13**] for concern
   for group A strep.  Also initially treated with xigris, now off.
   - Sputum cx gram stain 1+ GPCs in pairs, 1+ GN diplococci, culture
   shows sparse growth of oropharyngeal flora
   -Treated with  IV hydrocortisone 50g q 8 hours (day 1 = [**6-13**]), will d/c
   today
   - Vancomycin and clindamycin d/c
d per ID, pt started on gentamicin and
   pencillin
   - Tylenol prn
   - Follow up BCx, surveillance cultures show no additional positive
   cultures after intial BCx.
   - Follow wbc curve
   - Obtain TEE today to evaluate for endocarditis (TTE negative)
   # RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Intubated [**6-12**], was initially difficult to ventilate and required
   paralysis with cisatricuronium and FiO2s of 100, PEEP 20, RR of 35. Now
   off paralytic and tolerating FiO2 of 40%. Peep decreased to 16
   yesterday. Last ABG 7.28/50/114.
   - on ARDS vent settings
   - CXR shows ? collapse of left lower lung/ opacification
   - PEEP recently decreased from 20 to 16, will reincrease to 20 in
   attempt to reexpand left lower lung
   - IP consult today to ultrasound to evaluate for left lower lung
   effusion
   .
   #THROMBOCYTOPENIA: Developed thrombocytopenia requiring platelet
   transfusion.  Heme onc thinks unlikely to be DIC, more likely to be
   marrow suppression from sepsis.  Peripheral smear shows no
   schistocytes, d-dimer, FDP increased.  HIT ab also sent, holding
   heparin and all medications that cause thrombocytopenia.  Now trending
   up to 53.
   - Replete if under 10K or active bleeding
   - Continue to monitor plts
   - f/u hit antibody
   # RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   No history of kidney disease. Cr peaked at 4.7 on [**6-13**]. On CVVH.
   -per renal will continue CVVH for 24-48 hours to attempt volume
   removal, then will transition to HD.
   .
   # Elevated LFTs. AST/ALT consistently elevated, however now with
   elevated alk phos and t bili. Initial RUQ u/s showed edematous
   gallbladder. Concern for obstruction alk phos/t.bili vs shock liver.
   - repeat RUQ u/s
   - trend LFTs
   .
   # HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   -holding HAART in the setting of overwhelming septic shock
   .
   # DIABETES MELLITUS (DM), TYPE II
   cover with insulin sliding scale
   -lantus at 12u daily
   -goal blood sugars 150-200
   .
   # SPLENECTOMY. Patient up to date on immunizations.
   .
   #. FEN: NPO for now, replete lytes prn, IVF as above. Will consider TFs
   vs. TPN
   - nutrition c/s today
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2148-6-16**] 05:30 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-6-12**] 05:46 AM
   Arterial Line - [**2148-6-12**] 09:33 AM
   Dialysis Catheter - [**2148-6-13**] 07:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-06-18 08:10:00 Physician Resident Progress Note
24 Hour Events:
   -Patient with labored breathing, PEEP was increased to 20, pt. placed
   back on midazolam sedation.
   -IP, saw free flowing fluid with no loculations, performed diagnostic
   thoracentesis, transudative pleural fluid
   -TEE to be done tomorrow, tube feeds restarted, NPO past midnight
   -RUQ ultrasound being done- prelim read -> interval decrease in gb wall
   edema, gb not distended, no gstones, no cholecystitis, small amount of
   free fluid adj to liver
   -Gent level 0.7, given gent per ID recs
   -HIT Ab negative
   -Bronch done, demonstrated esophageal balloon in lung, extracted
   -PLT increasing
   Allergies:
   Erythromycin Base
   Hives;
   Biaxin (Oral) (Clarithromycin)
   Unknown; Hives;
   Ciprofloxacin
   gum pain;
   Last dose of Antibiotics:
   Vancomycin - [**2148-6-15**] 08:52 PM
   Clindamycin - [**2148-6-16**] 11:50 AM
   Gentamicin - [**2148-6-17**] 06:00 PM
   Penicillin G potassium - [**2148-6-18**] 05:45 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 80 mcg/hour
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   Other ICU medications:
   Midazolam (Versed) - [**2148-6-17**] 01:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-6-18**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 35.7
C (96.2
   HR: 79 (79 - 114) bpm
   BP: 129/65(86) {103/54(69) - 136/76(86)} mmHg
   RR: 22 (8 - 43) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 21 (17 - 293)mmHg
   Total In:
                                                                  3,157 mL
                                                                  2,008 mL
   PO:
   TF:
                                                                    297 mL
   IVF:
                                                                  2,665 mL
                                                                  2,008 mL
   Blood products:
   Total out:
                                                                  3,272 mL
                                                                  3,286 mL
   Urine:
                                                                     78 mL
                                                                     20 mL
   NG:
                                                                    200 mL
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                   -115 mL
                                                                 -1,278 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 35
   RR (Spontaneous): 2
   PEEP: 20 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 27 cmH2O
   SpO2: 100%
   ABG: 7.39/46/164/27/2
   Ve: 11.7 L/min
   PaO2 / FiO2: 410
   Physical Examination
   Gen: intubated, sedated
   HEENT: tube in place. NCAT.
   CV: distant HS,  No murmurs heard.
   Chest: CTAB on anterior exam
   Abd: obese, soft, ND
   Ext: Warm and
   Skin: continued petechiae b/l foot, 1 cm area of ulceration R posterior
   heel
   Labs / Radiology
   100 K/uL
   10.0 g/dL
   104 mg/dL
   2.5 mg/dL
   27 mEq/L
   3.5 mEq/L
   43 mg/dL
   99 mEq/L
   137 mEq/L
   29.4 %
   40.1 K/uL
        [image002.jpg]
                                     pH
                                    7.39
                                    pCO2
                                     46
                                     pO2
                                     164
                                    HCO3
                                     29
                                   BaseXS
                                      2
                             [**2148-6-17**]  05:31 AM
                             [**2148-6-17**]  05:36 AM
                             [**2148-6-17**]  12:39 PM
                             [**2148-6-17**]  02:15 PM
                             [**2148-6-17**]  02:24 PM
                             [**2148-6-17**]  05:38 PM
                             [**2148-6-17**]  11:20 PM
                             [**2148-6-17**]  11:32 PM
                             [**2148-6-18**]  03:38 AM
                             [**2148-6-18**]  03:41 AM
   WBC
   40.4
   39.9
   40.8
   40.1
   Hct
   29.7
   31.1
   30.4
   29.4
   Plt
   53
   95
   100
   100
   Cr
   2.1
   2.6
   2.7
   2.5
   2.5
   TCO2
   25
   28
   30
   29
   29
   Glucose
   139
   78
   81
   93
   104
   Other labs: PT / PTT / INR:14.4/29.8/1.3, ALT / AST:199/291, Alk Phos /
   T Bili:612/5.3, Amylase / Lipase:/35, D-dimer:[**Numeric Identifier 7265**] ng/mL,
   Fibrinogen:424 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL, LDH:415
   IU/L, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   57 yo man with HIV, h/o splenectomy, presents with acute onset of
   fevers, chills, hypotension, now with septic shock and worsening renal
   failure.
   # SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Pt presented with rigors and fevers, only localizing factor was mild
   abdominal tenderness and diarrhea, as well as progressing hypoxia. Was
   febrile and hypotension in ED. [**3-18**] BCx ([**6-12**] 1 am) growing strep
   viridans now with septic shock. Initially required 4 pressors, now off
   pressors, MAPs improved.  Received one dose of IVIG on [**6-13**] for concern
   for group A strep.  Also initially treated with xigris, now off.
   - Sputum cx gram stain 1+ GPCs in pairs, 1+ GN diplococci, culture
   shows sparse growth of oropharyngeal flora
   - pt continues on gentamicin and pencillin
   - Tylenol prn
   - Follow up BCx, surveillance cultures show no additional positive
   cultures after intial BCx.
   - Follow wbc curve
   - Obtain TEE today to evaluate for endocarditis (TTE negative), tube
   feeds being held
   # RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Intubated [**6-12**], was initially difficult to ventilate and required
   paralysis with cisatricuronium and FiO2s of 100, PEEP 20, RR of 35. Now
   off paralytic and tolerating FiO2 of 40%. Peep decreased to 16
   yesterday. Last ABG 7.28/50/114.
   - on ARDS vent settings
   - CXR shows ? collapse of left lower lung/ opacification
   - PEEP at 20, required more sedation
   - IP drained a transudative fluid, serous, from L. pleural space
   .
   #THROMBOCYTOPENIA: Developed thrombocytopenia requiring platelet
   transfusion.  Heme onc thinks unlikely to be DIC, more likely to be
   marrow suppression from sepsis.  Peripheral smear shows no
   schistocytes, d-dimer, FDP increased.  HIT ab also sent, holding
   heparin and all medications that cause thrombocytopenia.  Now trending
   up to 53.
   - Replete if under 10K or active bleeding
   - Continue to monitor plts
   - HIT Ab negative
   # RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   No history of kidney disease. Cr peaked at 4.7 on [**6-13**]. On CVVH.
   -per renal will continue CVVH for 24-48 hours, goal to remove
   400cc/hour today
   .
   # Elevated LFTs. AST/ALT consistently elevated, however now with
   elevated alk phos and t bili. Initial RUQ u/s showed edematous
   gallbladder. Concern for obstruction alk phos/t.bili vs shock liver.
   - RUQ u/s shows as above
   - trend LFTs
   .
   # HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   -holding HAART in the setting of overwhelming septic shock
   .
   # DIABETES MELLITUS (DM), TYPE II
   cover with insulin sliding scale
   -lantus at 12u daily
   -goal blood sugars 150-200
   .
   # SPLENECTOMY. Patient up to date on immunizations.
   .
   #. FEN:TF
s held currently, replete lytes prn. Will continue TF
s after
   TEE
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2148-6-16**] 05:30 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-6-12**] 05:46 AM
   Arterial Line - [**2148-6-12**] 09:33 AM
   Dialysis Catheter - [**2148-6-13**] 07:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2148-06-19 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2148-6-18**] 01:45 PM
   -TEE showed no vegetations
   -labs show pancreatitis, plan to obtain CT abd after off CVVH
   -hypotensive to 70s with 500 ccs negative per hour, given 1000 cc
   bolus, changed CVVH to run at even, held versed
   -hepatitis panel sent
   -amylase level of pleural fluid 35
   -started acyclovir
   -need to ask ID in am about IV vs topical acyclovir, need for gent, and
   when to restart HAART
   Allergies:
   Erythromycin Base
   Hives;
   Biaxin (Oral) (Clarithromycin)
   Unknown; Hives;
   Ciprofloxacin
   gum pain;
   Last dose of Antibiotics:
   Clindamycin - [**2148-6-16**] 11:50 AM
   Acyclovir - [**2148-6-18**] 11:58 PM
   Gentamicin - [**2148-6-19**] 05:00 AM
   Penicillin G potassium - [**2148-6-19**] 06:04 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-6-18**] 07:51 PM
   Midazolam (Versed) - [**2148-6-19**] 02:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-6-19**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.2
   HR: 74 (74 - 91) bpm
   BP: 101/46(61) {83/42(53) - 155/76(103)} mmHg
   RR: 35 (0 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 13 (8 - 21)mmHg
   Total In:
                                                                  7,602 mL
                                                                  2,531 mL
   PO:
   TF:
                                                                     45 mL
                                                                    184 mL
   IVF:
                                                                  7,497 mL
                                                                  2,287 mL
   Blood products:
   Total out:
                                                                 13,236 mL
                                                                  2,733 mL
   Urine:
                                                                     34 mL
                                                                     57 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                 -5,634 mL
                                                                   -202 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   SpO2: 98%
   ABG: 7.38/44/139/23/0
   Ve: 15.2 L/min
   PaO2 / FiO2: 348
   Physical Examination
   Gen: intubated, sedated
   HEENT: tube in place. NCAT.
   CV: distant HS,  No murmurs heard.
   Chest: CTAB on anterior exam
   Abd: obese, soft, ND
   Ext: Warm and
   Skin: continued petechiae b/l foot, 1 cm area of ulceration R posterior
   heel
   Labs / Radiology
   95 K/uL
   10.2 g/dL
   183 mg/dL
   2.0 mg/dL
   23 mEq/L
   3.9 mEq/L
   33 mg/dL
   102 mEq/L
   134 mEq/L
   29.7 %
   45.6 K/uL
        [image002.jpg]
                             [**2148-6-18**]  03:41 AM
                             [**2148-6-18**]  09:25 AM
                             [**2148-6-18**]  09:43 AM
                             [**2148-6-18**]  03:53 PM
                             [**2148-6-18**]  04:09 PM
                             [**2148-6-18**]  08:00 PM
                             [**2148-6-18**]  09:30 PM
                             [**2148-6-18**]  09:40 PM
                             [**2148-6-19**]  04:00 AM
                             [**2148-6-19**]  04:01 AM
   WBC
   45.6
   45.6
   Hct
   30.0
   29.7
   Plt
   72
   95
   Cr
   2.3
   2.3
   2.1
   2.0
   TCO2
   29
   30
   28
   26
   27
   Glucose
   112
   145
   176
   177
   183
   Other labs: PT / PTT / INR:16.9/29.1/1.5, ALT / AST:155/190, Alk Phos /
   T Bili:719/2.8, Amylase / Lipase:149/677, D-dimer:[**Numeric Identifier 7265**] ng/mL,
   Fibrinogen:424 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL, LDH:435
   IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   57 yo man with HIV, h/o splenectomy, presents with acute onset of
   fevers, chills, hypotension, now with septic [**Numeric Identifier 281**] and worsening renal
   failure.
   # SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Pt presented with rigors and fevers, only localizing factor was mild
   abdominal tenderness and diarrhea, as well as progressing hypoxia. Was
   febrile and hypotension in ED. [**3-18**] BCx ([**6-12**] 1 am) growing strep
   viridans now with septic [**Month/Year (2) 281**]. Initially required 4 pressors, now off
   pressors, MAPs improved.  Received one dose of IVIG on [**6-13**] for concern
   for group A strep.  Also initially treated with xigris, now off. TEE
   yesterday demonstrated no vegetation.
   - Sputum cx gram stain 1+ GPCs in pairs, 1+ GN diplococci, culture
   shows sparse growth of oropharyngeal flora
   - pt continues on gentamicin and pencillin
   - Tylenol prn
   - Follow up BCx, surveillance cultures show no additional positive
   cultures after intial BCx.
   - Follow wbc curve
   # RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Intubated [**6-12**], was initially difficult to ventilate and required
   paralysis with cisatricuronium and FiO2s of 100, PEEP 20, RR of 35. Now
   off paralytic and tolerating FiO2 of 40%. Peep decreased to 16
   yesterday. Last ABG 7.28/50/114.
   - on ARDS vent settings
   - CXR shows ? collapse of left lower lung/ opacification
   - PEEP at 20, required more sedation
   - IP drained a transudative fluid, serous, from L. pleural space
   .
   #THROMBOCYTOPENIA: Developed thrombocytopenia requiring platelet
   transfusion.  Heme onc thinks unlikely to be DIC, more likely to be
   marrow suppression from sepsis.  Peripheral smear shows no
   schistocytes, d-dimer, FDP increased.  HIT ab also sent, holding
   heparin and all medications that cause thrombocytopenia.  Now trending
   up to 53.
   - Replete if under 10K or active bleeding
   - Continue to monitor plts
   - HIT Ab negative
   # RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   No history of kidney disease. Cr peaked at 4.7 on [**6-13**]. On CVVH.
   -per renal will continue CVVH for 24-48 hours, goal to remove
   400cc/hour today
   .
   # Elevated LFTs. AST/ALT consistently elevated, however now with
   elevated alk phos and t bili. Initial RUQ u/s showed edematous
   gallbladder. Concern for obstruction alk phos/t.bili vs [**Month/Year (2) 281**] liver.
   - RUQ u/s shows as above
   - trend LFTs
   .
   # HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   -holding HAART in the setting of overwhelming septic [**Last Name (LF) 281**], [**First Name3 (LF) **]
   discuss with ID time course to restart HAART
   .
   # DIABETES MELLITUS (DM), TYPE II
   cover with insulin sliding scale
   -lantus at 12u daily
   -goal blood sugars 150-200
   .
   # SPLENECTOMY. Patient up to date on immunizations.
   .
   #. FEN:TF
s as tolerated, will likely need post pyloric tube placed in
   IR, replete lytes prn.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2148-6-18**] 10:45 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-6-12**] 05:46 AM
   Arterial Line - [**2148-6-12**] 09:33 AM
   Dialysis Catheter - [**2148-6-13**] 07:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-06-19 09:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2148-6-18**] 01:45 PM
   -TEE showed no vegetations
   -labs show pancreatitis, plan to obtain CT abd after off CVVH
   -hypotensive to 70s with 500 ccs negative per hour, given 1000 cc
   bolus, changed CVVH to run at even, held versed with resolution of
   hypotension
   -hepatitis panel sent
   -amylase level of pleural fluid = 35
   -started acyclovir
   Allergies:
   Erythromycin Base
   Hives;
   Biaxin (Oral) (Clarithromycin)
   Unknown; Hives;
   Ciprofloxacin
   gum pain;
   Last dose of Antibiotics:
   Clindamycin - [**2148-6-16**] 11:50 AM
   Acyclovir - [**2148-6-18**] 11:58 PM
   Gentamicin - [**2148-6-19**] 05:00 AM
   Penicillin G potassium - [**2148-6-19**] 06:04 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-6-18**] 07:51 PM
   Midazolam (Versed) - [**2148-6-19**] 02:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-6-19**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 78 (74 - 91) bpm
   BP: 131/60(82) {83/42(53) - 155/76(103)} mmHg
   RR: 21 (0 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 13 (8 - 16)mmHg
   Total In:
                                                                  7,602 mL
                                                                  3,037 mL
   PO:
   TF:
                                                                     45 mL
                                                                    258 mL
   IVF:
                                                                  7,497 mL
                                                                  2,720 mL
   Blood products:
   Total out:
                                                                 13,236 mL
                                                                  3,641 mL
   Urine:
                                                                     34 mL
                                                                     57 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                 -5,634 mL
                                                                   -604 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 29 cmH2O
   SpO2: 100%
   ABG: 7.38/44/139/23/0
   Ve: 12.4 L/min
   PaO2 / FiO2: 348
   Physical Examination
   Gen: intubated, sedated
   HEENT: tube in place. NCAT.
   CV: distant HS,  No murmurs heard.
   Chest: Decreased bs L base, otherwise CTA.
   Abd: obese, soft, ND
   Ext: warm
   Skin: petechiae b/l foot, 1 cm area of ulceration R posterior heel
   Labs / Radiology
   95 K/uL
   10.2 g/dL
   183 mg/dL
   2.0 mg/dL
   23 mEq/L
   3.9 mEq/L
   33 mg/dL
   102 mEq/L
   134 mEq/L
   29.7 %
   45.6 K/uL
        [image002.jpg]
                             [**2148-6-18**]  03:41 AM
                             [**2148-6-18**]  09:25 AM
                             [**2148-6-18**]  09:43 AM
                             [**2148-6-18**]  03:53 PM
                             [**2148-6-18**]  04:09 PM
                             [**2148-6-18**]  08:00 PM
                             [**2148-6-18**]  09:30 PM
                             [**2148-6-18**]  09:40 PM
                             [**2148-6-19**]  04:00 AM
                             [**2148-6-19**]  04:01 AM
   WBC
   45.6
   45.6
   Hct
   30.0
   29.7
   Plt
   72
   95
   Cr
   2.3
   2.3
   2.1
   2.0
   TCO2
   29
   30
   28
   26
   27
   Glucose
   112
   145
   176
   177
   183
   Other labs: PT / PTT / INR:16.9/29.1/1.5, ALT / AST:155/190, Alk Phos /
   T Bili:719/2.8, Amylase / Lipase:149/677, D-dimer:[**Numeric Identifier 7265**] ng/mL,
   Fibrinogen:424 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL, LDH:435
   IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   57 yo man with HIV, h/o splenectomy, presents with acute onset of
   fevers, chills, hypotension, now with septic [**Numeric Identifier 281**] and worsening renal
   failure.
   # SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Pt presented with rigors and fevers, only localizing factor was mild
   abdominal tenderness and diarrhea, as well as progressing hypoxia. Was
   febrile and hypotension in ED. [**3-18**] BCx ([**6-12**] 1 am) growing strep
   viridans now with septic [**Month/Year (2) 281**]. Initially required 4 pressors, now off
   pressors, MAPs improved.  Received one dose of IVIG on [**6-13**] for concern
   for group A strep.  Also initially treated with xigris, now off. TEE
   [**6-18**] showed no vegetations.
   - Sputum cx gram stain 1+ GPCs in pairs, 1+ GN diplococci, culture
   shows sparse growth of oropharyngeal flora
   - Continue gentamicin and [**Last Name (LF) **], [**First Name3 (LF) **] discuss with ID need for gentamicin
   given negative TEE,
   - Tylenol prn
   - Follow up BCx, surveillance cultures show no additional positive
   cultures after intial BCx.
   - Follow wbc curve
   .
   #LEUKOCYTOSIS
   Patient with persistent leukocytosis despite other indicators sepsis is
   improving. Labs [**6-18**] showed elevated amylase and lipase concerning for
   pancreatitis. Patient also with evidence or oral HSV.
   - If signs of secondary infection, consider CT abd after off CVVH
   - follow wbc curve
   - Continue to monitor for sources of infection
   - D/w ID oral vs IV acyclovir for oral HSV
   # RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Intubated [**6-12**], was initially difficult to ventilate and required
   paralysis with cisatricuronium and FiO2s of 100, PEEP 20, RR of 35. Now
   off paralytic and tolerating FiO2 of 40%. Minute ventilation
   decreasing. Last ABG 7.28/50/114. Thoracentesis by IP showed
   transudative fluid, amylase 35.
   - on ARDS vent settings
   - PEEP at 20, required more sedation
   - IP drained a transudative fluid, serous, from L. pleural space
   .
   #HYPOTENSION. Patient with hypotension in setting of aggressive
   diuresis with CVVH after 5+ L removed. Responded to fluid bolus and run
   at even for the remainder of the night.
   - Fluid bolus as necessary
   - Diuresis at goal of 400 cc/ hour negative
   .
   #THROMBOCYTOPENIA: Developed thrombocytopenia requiring platelet
   transfusion.  Heme onc thinks unlikely to be DIC, more likely to be
   marrow suppression from sepsis.  Peripheral smear shows no
   schistocytes, d-dimer, FDP increased.    Now trending up to 95.
   - Replete if under 10K or active bleeding
   - Continue to monitor plts
   - HIT Ab negative
   # RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   No history of kidney disease. Cr peaked at 4.7 on [**6-13**]. On CVVH. BPs
   did not tolerate goal of 500ccs/hour overnight.  CVVH run at even for
   remainder of night.
   - Continue CVVH goal to remove 400cc/hour today
   - Will transition to HD when adequate fluid removed.
   .
   # Elevated LFTs. AST/ALT consistently elevated, however now with
   elevated alk phos and t bili. Initial RUQ u/s showed edematous
   gallbladder. Per liver concern for [**Month/Year (2) 281**] liver, vs. [**3-18**] sepsis,
   secondary viral infection, or acalculous cholecystitis. Per pharm,
   unlikely related to any of his medications. Today alk phos increasing
   but t.bili decreased
   - per liver will check hepatitis serologies, EBV, CMV, and viral loads
   - trend LFTs
   - consider HIDA scan if persistent wbc, fevers
   .
   # HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   - holding HAART in setting of overwhelming septic [**Last Name (LF) 281**], [**First Name3 (LF) **] discuss
   with ID time course to restart HAART
   .
   # DIABETES MELLITUS (DM), TYPE II
   cover with insulin sliding scale
   -lantus at 12u daily
   -goal blood sugars 150-200
   .
   # SPLENECTOMY. Patient up to date on immunizations.
   .
   #. FEN:TF
s advance TFs as tolerated, will likely need post pyloric
   tube placed in IR, replete lytes prn.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2148-6-18**] 10:45 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-6-12**] 05:46 AM
   Arterial Line - [**2148-6-12**] 09:33 AM
   Dialysis Catheter - [**2148-6-13**] 07:49 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: carafate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2148-06-20 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   d/c-ed gent per ID recs
   -wanted to continue po acyclovir for now
   -considering starting HAART soon, not quite yet
   -they did not comment on whether or not to start broader abx coverage
   for pna. So we started Levofloxacin for pna.
   I/Os: -4.2L
   Allergies:
   Erythromycin Base
   Hives;
   Biaxin (Oral) (Clarithromycin)
   Unknown; Hives;
   Ciprofloxacin
   gum pain;
   Last dose of Antibiotics:
   Gentamicin - [**2148-6-19**] 05:00 AM
   Levofloxacin - [**2148-6-19**] 10:30 PM
   Acyclovir - [**2148-6-20**] 12:00 AM
   Penicillin G potassium - [**2148-6-20**] 05:36 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   KCl (CRRT) - 2 mEq./hour
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   Other ICU medications:
   Carafate (Sucralfate) - [**2148-6-19**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-6-20**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.3
   HR: 70 (70 - 90) bpm
   BP: 127/59(80) {106/45(61) - 155/75(103)} mmHg
   RR: 35 (0 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  8,519 mL
                                                                  3,176 mL
   PO:
             TF:
                                                                    805 mL
                                                                    344 mL
   IVF:
                                                                  7,354 mL
                                                                  2,772 mL
   Blood products:
   Total out:
                                                                 12,735 mL
                                                                  3,527 mL
   Urine:
                                                                    112 mL
                                                                     65 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                 -4,216 mL
                                                                   -351 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 40%
   PIP: 30 cmH2O
   Plateau: 26 cmH2O
   SpO2: 100%
   ABG: 7.39/38/170/23/-1
   Ve: 13.2 L/min
   PaO2 / FiO2: 425
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   77 K/uL
   9.6 g/dL
   197 mg/dL
   1.8 mg/dL
   23 mEq/L
   4.0 mEq/L
   26 mg/dL
   104 mEq/L
   137 mEq/L
   29.0 %
   38.7 K/uL
        [image002.jpg]
                             [**2148-6-19**]  04:00 AM
                             [**2148-6-19**]  04:01 AM
                             [**2148-6-19**]  10:14 AM
                             [**2148-6-19**]  10:26 AM
                             [**2148-6-19**]  03:03 PM
                             [**2148-6-19**]  03:26 PM
                             [**2148-6-19**]  09:33 PM
                             [**2148-6-19**]  09:48 PM
                             [**2148-6-20**]  03:39 AM
                             [**2148-6-20**]  03:51 AM
   WBC
   45.6
   44.6
   38.7
   Hct
   29.7
   29.6
   29.0
   Plt
   95
   74
   77
   Cr
   2.0
   1.9
   1.8
   TCO2
   27
   26
   27
   25
   24
   Glucose
   183
   201
   194
   178
   197
   Other labs: PT / PTT / INR:17.0/28.2/1.5, ALT / AST:119/102, Alk Phos /
   T Bili:677/1.6, Amylase / Lipase:231/777, D-dimer:[**Numeric Identifier 7265**] ng/mL,
   Fibrinogen:424 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.5 g/dL, LDH:438
   IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   57 yo man with HIV, h/o splenectomy, presents with acute onset of
   fevers, chills, hypotension, now with septic [**Numeric Identifier 281**] and worsening renal
   failure.
   # SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Pt presented with rigors and fevers, only localizing factor was mild
   abdominal tenderness and diarrhea, as well as progressing hypoxia. Was
   febrile and hypotension in ED. [**3-18**] BCx ([**6-12**] 1 am) growing strep
   viridans now with septic [**Month/Year (2) 281**]. Initially required 4 pressors, now off
   pressors, MAPs improved.  Received one dose of IVIG on [**6-13**] for concern
   for group A strep.  Also initially treated with xigris, now off. TEE
   [**6-18**] showed no vegetations.
   - Sputum cx gram stain 1+ GPCs in pairs, 1+ GN diplococci, culture
   shows sparse growth of oropharyngeal flora
   - Continue gentamicin and [**Last Name (LF) **], [**First Name3 (LF) **] discuss with ID need for gentamicin
   given negative TEE,
   - Tylenol prn
   - Follow up BCx, surveillance cultures show no additional positive
   cultures after intial BCx.
   - Follow wbc curve
   .
   #LEUKOCYTOSIS
   Patient with persistent leukocytosis despite other indicators sepsis is
   improving. Labs [**6-18**] showed elevated amylase and lipase concerning for
   pancreatitis. Patient also with evidence or oral HSV.
   - If signs of secondary infection, consider CT abd after off CVVH
   - follow wbc curve
   - Continue to monitor for sources of infection
   - D/w ID oral vs IV acyclovir for oral HSV
   # RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Intubated [**6-12**], was initially difficult to ventilate and required
   paralysis with cisatricuronium and FiO2s of 100, PEEP 20, RR of 35. Now
   off paralytic and tolerating FiO2 of 40%. Minute ventilation
   decreasing. Last ABG 7.28/50/114. Thoracentesis by IP showed
   transudative fluid, amylase 35.
   - on ARDS vent settings
   - PEEP at 20, required more sedation
   - IP drained a transudative fluid, serous, from L. pleural space
   .
   #HYPOTENSION. Patient with hypotension in setting of aggressive
   diuresis with CVVH after 5+ L removed. Responded to fluid bolus and run
   at even for the remainder of the night.
   - Fluid bolus as necessary
   - Diuresis at goal of 400 cc/ hour negative
   .
   #THROMBOCYTOPENIA: Developed thrombocytopenia requiring platelet
   transfusion.  Heme onc thinks unlikely to be DIC, more likely to be
   marrow suppression from sepsis.  Peripheral smear shows no
   schistocytes, d-dimer, FDP increased.    Now trending up to 95.
   - Replete if under 10K or active bleeding
   - Continue to monitor plts
   - HIT Ab negative
   # RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   No history of kidney disease. Cr peaked at 4.7 on [**6-13**]. On CVVH. BPs
   did not tolerate goal of 500ccs/hour overnight.  CVVH run at even for
   remainder of night.
   - Continue CVVH goal to remove 400cc/hour today
   - Will transition to HD when adequate fluid removed.
   .
   # Elevated LFTs. AST/ALT consistently elevated, however now with
   elevated alk phos and t bili. Initial RUQ u/s showed edematous
   gallbladder. Per liver concern for [**Month/Year (2) 281**] liver, vs. [**3-18**] sepsis,
   secondary viral infection, or acalculous cholecystitis. Per pharm,
   unlikely related to any of his medications. Today alk phos increasing
   but t.bili decreased
   - per liver will check hepatitis serologies, EBV, CMV, and viral loads
   - trend LFTs
   - consider HIDA scan if persistent wbc, fevers
   .
   # HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   - holding HAART in setting of overwhelming septic [**Last Name (LF) 281**], [**First Name3 (LF) **] discuss
   with ID time course to restart HAART
   .
   # DIABETES MELLITUS (DM), TYPE II
   cover with insulin sliding scale
   -lantus at 12u daily
   -goal blood sugars 150-200
   .
   # SPLENECTOMY. Patient up to date on immunizations.
   .
   #. FEN:TF
s advance TFs as tolerated, will likely need post pyloric
   tube placed in IR, replete lytes prn
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2148-6-20**] 04:33 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-6-12**] 05:46 AM
   Arterial Line - [**2148-6-12**] 09:33 AM
   Dialysis Catheter - [**2148-6-13**] 07:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-06-21 09:21:00 Physician Resident Progress Note
24 Hour Events:
   -two episodes of hypotension with SBP below 100, given two 500cc
   boluses of fluid
   -temp to 101, pan cultured, given 1x dose of zosyn and vancomycin
   -PEEP @ 12
   -HCV and HBV viral load negative
   -Increased Cr to 2.1
   -EBV IgG positive
   Allergies:
   Erythromycin Base
   Hives;
   Biaxin (Oral) (Clarithromycin)
   Unknown; Hives;
   Ciprofloxacin
   gum pain;
   Last dose of Antibiotics:
   Gentamicin - [**2148-6-19**] 05:00 AM
   Levofloxacin - [**2148-6-19**] 10:30 PM
   Acyclovir - [**2148-6-21**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2148-6-21**] 01:00 AM
   Vancomycin - [**2148-6-21**] 01:36 AM
   Penicillin G potassium - [**2148-6-21**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-6-20**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-6-21**] 09:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38
C (100.4
   HR: 108 (76 - 117) bpm
   BP: 118/77(85) {93/46(57) - 133/77(85)} mmHg
   RR: 34 (20 - 37) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 9 (0 - 12)mmHg
   Total In:
                                                                  7,044 mL
                                                                  1,047 mL
   PO:
   TF:
                                                                    704 mL
                                                                    467 mL
   IVF:
                                                                  6,090 mL
                                                                    580 mL
   Blood products:
   Total out:
                                                                  7,665 mL
                                                                     95 mL
   Urine:
                                                                    242 mL
                                                                     95 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -621 mL
                                                                    952 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 35
   RR (Spontaneous): 2
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   Compliance: 42.2 cmH2O/mL
   SpO2: 96%
   ABG: 7.40/38/118/21/0
   Ve: 13.9 L/min
   PaO2 / FiO2: 295
   Physical Examination
   Gen: intubated, sedated
   HEENT: tube in place. NCAT.
   CV: distant HS,  No murmurs heard.
   Chest: Decreased bs L base, otherwise CTA.
   Abd: obese, soft, ND
   Ext: warm
   Skin: petechiae b/l foot,
   Labs / Radiology
   141 K/uL
   9.4 g/dL
   195 mg/dL
   2.8 mg/dL
   21 mEq/L
   5.4 mEq/L
   39 mg/dL
   104 mEq/L
   137 mEq/L
   28.5 %
   37.2 K/uL
        [image002.jpg]
                                     pH
                                    7.40
                                    pCO2
                                     38
                                     pO2
                                     118
                                    HCO3
                                     24
                                   BaseXS
                                      0
                             [**2148-6-19**]  09:48 PM
                             [**2148-6-20**]  03:39 AM
                             [**2148-6-20**]  03:51 AM
                             [**2148-6-20**]  09:52 AM
                             [**2148-6-20**]  10:06 AM
                             [**2148-6-20**]  11:53 AM
                             [**2148-6-20**]  04:09 PM
                             [**2148-6-20**]  04:22 PM
                             [**2148-6-21**]  03:04 AM
                             [**2148-6-21**]  07:50 AM
   WBC
   38.7
   36.8
   37.2
   Hct
   29.0
   29.4
   28.5
   Plt
   77
   95
   141
   Cr
   1.8
   2.1
   2.8
   TCO2
   25
   24
   24
   23
   26
   24
   Glucose
   197
   160
   141
   195
   Other labs: PT / PTT / INR:17.0/28.2/1.5, ALT / AST:112/123, Alk Phos /
   T Bili:601/1.3, Amylase / Lipase:231/777, D-dimer:[**Numeric Identifier 7265**] ng/mL,
   Fibrinogen:424 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.5 g/dL, LDH:438
   IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   CMV ([**6-19**]): Pending
   EBV IgM ([**6-19**]): Pending
   Assessment and Plan
   57 yo man with HIV, h/o splenectomy, presents with acute onset of
   fevers, chills, hypotension, now with septic [**Month/Day (4) 281**] and worsening renal
   failure.
   # SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)/ LEUKOCYTOSIS
   Pt presented with rigors and fevers, only localizing factor was mild
   abdominal tenderness and diarrhea, as well as progressing hypoxia. Was
   febrile and hypotension in ED. [**3-18**] BCx ([**6-12**] 1 am) growing strep
   viridans now with septic [**Month/Year (2) 281**]. Initially required 4 pressors, now off
   pressors, MAPs improved.  Received one dose of IVIG on [**6-13**] for concern
   for group A strep.  Also initially treated with xigris, now off. TEE
   [**6-18**] showed no vegetations.  Gentamicin d/c
d given TEE findings.
   Patient with persistent leukocytosis despite other indicators sepsis is
   improving. Labs [**6-18**] showed elevated amylase and lipase concerning for
   pancreatitis. Patient also with evidence of oral HSV.  WBC at 37.2,
   febrile to 101,
   - Continue penicillin for a total 10 day course (Day [**7-24**])
   - Tylenol prn
   - Follow up BCx, surveillance cultures show no additional positive
   cultures after intial BCx.
   - Repeat sputum culture
   - Continue to monitor for sources of infection
   .
   # RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Intubated [**6-12**], was initially difficult to ventilate and required
   paralysis with cisatricuronium and FiO2s of 100, PEEP 20, RR of 35.
   Thoracentesis by IP showed transudative fluid. Now off paralytic and
   tolerating FiO2 of 40%. On [**6-19**] PEEP decreased to 16, last ABG
   7.39/38/170.  Levaquin started o/n for ? pneumonia, however overall
   chest x-rays appear to be improving, afebrile, and wbc trending down
   - will d/c levaquin
   - repeat sputum cx
   - on ARDS vent settings
   - Will continue to wean PEEP as tolerated
   #HYPOTENSION. Patient with hypotension in setting of aggressive
   diuresis with CVVH after 5+ L removed on [**6-18**]. Responded to fluid bolus.
   Overnight able to tolerate CVVH with fluid removal. No repeat
   hypotension.
   .
   #THROMBOCYTOPENIA: Developed thrombocytopenia requiring platelet
   transfusion.  Heme onc thinks unlikely to be DIC, more likely to be
   marrow suppression from sepsis.  Peripheral smear shows no
   schistocytes, d-dimer, FDP increased.   Stable 75-100.
   - Replete if under 10K or active bleeding
   - Continue to monitor plts
   - HIT Ab negative
   # RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   No history of kidney disease. Cr peaked at 4.7 on [**6-13**].  No longer on
   CVVH, net positive 300 cc yesterday, Cr to 2.8 from 2.1.  Likely
   - Will transition to HD
   - F/u renal recs
   .
   # Elevated LFTs. AST/ALT consistently elevated, however now with
   elevated alk phos and t bili. Initial RUQ u/s showed edematous
   gallbladder. Per liver concern for [**Month/Year (2) 281**] liver, vs. [**3-18**] sepsis,
   secondary viral infection, or acalculous cholecystitis. Per pharm,
   unlikely related to any of his medications. Today LFTs pending down.
   - hepatitis serologies, EBV, CMV, and viral loads pending
   -continue trend LFTs
   - consider HIDA scan if persistent wbc, fevers, LFTs trend up
   .
   # HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   - holding HAART in setting of overwhelming septic [**Last Name (LF) 281**], [**First Name3 (LF) **] ID will
   continue to hold for now.
   .
   # DIABETES MELLITUS (DM), TYPE II
   cover with insulin sliding scale
   -lantus at 12u daily
   -goal blood sugars 150-200
   .
   # SPLENECTOMY. Patient up to date on immunizations.
   .
   #. FEN:TF
s, post pyloric tube placed, replete lytes prn
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2148-6-20**] 11:35 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-6-12**] 05:46 AM
   Dialysis Catheter - [**2148-6-13**] 07:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2148-06-22 07:12:00 Physician Resident Progress Note
Chief Complaint: fever, chills
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2148-6-21**] 08:56 PM
   Patient received HD yesterday. Tolerated removal of 800mL of
   ultrafiltrate.  HD line was removed, tip sent for culture. Nephrology
   will consider tunneled catheter on Monday.
   Vanc/Zosyn discontinued.
   CT abdomen completed: no abscess or fluid collection, mild
   pancreatitis, b/l pleural effusions with atelectasis, L opacity
   Allergies:
   Erythromycin Base
   Hives;
   Biaxin (Oral) (Clarithromycin)
   Unknown; Hives;
   Ciprofloxacin
   gum pain;
   Last dose of Antibiotics:
   Levofloxacin - [**2148-6-19**] 10:30 PM
   Acyclovir - [**2148-6-21**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2148-6-21**] 01:00 AM
   Penicillin G potassium - [**2148-6-22**] 04:11 AM
   Vancomycin - [**2148-6-22**] 05:10 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2148-6-22**] 02:15 AM
   Fentanyl - [**2148-6-22**] 02:15 AM
   Heparin Sodium (Prophylaxis) - [**2148-6-22**] 04:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-6-22**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.2
   HR: 81 (79 - 108) bpm
   BP: 109/50(64) {93/41(55) - 145/81(91)} mmHg
   RR: 35 (25 - 35) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 10 (7 - 25)mmHg
   Total In:
                                                                  2,759 mL
                                                                  1,048 mL
   PO:
   TF:
                                                                  1,110 mL
                                                                    576 mL
   IVF:
                                                                  1,099 mL
                                                                    422 mL
   Blood products:
   Total out:
                                                                  1,795 mL
                                                                    115 mL
   Urine:
                                                                    295 mL
                                                                    115 mL
   NG:
   Stool:
                                                                  1,500 mL
   Drains:
   Balance:
                                                                    964 mL
                                                                    933 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   Compliance: 31.7 cmH2O/mL
   SpO2: 95%
   ABG: 7.40/38/118/29/0
   Ve: 13 L/min
   PaO2 / FiO2: 295
   Physical Examination
   Gen: intubated, sedated. Arousable to voice.
   HEENT: tube in place. NCAT.
   CV: distant HS,  No murmurs heard.
   Chest: CTAB on anterior exam.
   Abd: obese, soft, ND
   Ext: warm, well perfused. No edema
   Labs / Radiology
   230 K/uL
   7.9 g/dL
   195 mg/dL
   3.0 mg/dL
   29 mEq/L
   4.3 mEq/L
   37 mg/dL
   103 mEq/L
   140 mEq/L
   23.5 %
   21.6 K/uL
        [image002.jpg]
                             [**2148-6-20**]  03:39 AM
                             [**2148-6-20**]  03:51 AM
                             [**2148-6-20**]  09:52 AM
                             [**2148-6-20**]  10:06 AM
                             [**2148-6-20**]  11:53 AM
                             [**2148-6-20**]  04:09 PM
                             [**2148-6-20**]  04:22 PM
                             [**2148-6-21**]  03:04 AM
                             [**2148-6-21**]  07:50 AM
                             [**2148-6-22**]  04:01 AM
   WBC
   38.7
   36.8
   37.2
   21.6
   Hct
   29.0
   29.4
   28.5
   23.5
   Plt
   77
   95
   141
   230
   Cr
   1.8
   2.1
   2.8
   3.0
   TCO2
   24
   24
   23
   26
   24
   Glucose
   197
   160
   141
   195
   195
   Other labs: PT / PTT / INR:18.1/35.5/1.7, ALT / AST:112/123, Alk Phos /
   T Bili:601/1.3, Amylase / Lipase:231/777, D-dimer:[**Numeric Identifier 7265**] ng/mL,
   Fibrinogen:424 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.5 g/dL, LDH:438
   IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Imaging: CT torso [**6-21**] wet read:
   1. No abscess/ collection in the torso.
   2. Findings consistent with mild pancreatitis.
   3. Small bilateral pleural effusions and associated atelectasis. Patchy
   opacity in the left upper lobe may represent atelectasis or
   consolidation,
   please correlate.
   Assessment and Plan
   57 yo man with HIV, h/o splenectomy, presents with acute onset of
   fevers, chills, hypotension, now with septic [**Month/Day (4) 281**] and worsening renal
   failure.
   # SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)/ LEUKOCYTOSIS
   Pt presented with rigors and fevers, only localizing factor was mild
   abdominal tenderness and diarrhea, as well as progressing hypoxia. Was
   febrile and hypotension in ED. [**3-18**] BCx ([**6-12**] 1 am) growing strep
   viridans now with septic [**Month/Year (2) 281**]. Initially required 4 pressors, now off
   pressors, MAPs improved.  Received one dose of IVIG on [**6-13**] for concern
   for group A strep.  Also initially treated with xigris, now off. TEE
   [**6-18**] showed no vegetations.  Gentamicin d/c
d given TEE findings.
   Patient with persistent leukocytosis despite other indicators sepsis is
   improving. Labs [**6-18**] showed elevated amylase and lipase concerning for
   pancreatitis. Patient also with evidence of oral HSV.  WBC at 37.2 on
   [**6-21**], febrile to 101, pan cultured and empirically gave 1 dose of vanc
   and zosyn. This was discontinued overnight. WBC down to 21.6.  Tmax
   100.4.
   - Continue penicillin for a total 10 day course (Day [**8-23**])
   - Tylenol prn
   - Follow up BCx, surveillance cultures show no additional positive
   cultures after intial BCx.
   - Continue to monitor for sources of infection, f/u final read of CT
   Torso scan.
   .
   # RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Intubated [**6-12**], was initially difficult to ventilate and required
   paralysis with cisatricuronium and FiO2s of 100, PEEP 20, RR of 35.
   Thoracentesis by IP showed transudative fluid.   Currently on FiO2 of
   40% with PEEP of 10.  Current ABG demonstrates increased pO2.
   - on ARDS vent settings
   - Will wean PEEP to 10
   .
   # HCT drop: Will recheck HCT this AM. Potential etiologies include GI
   bleed vs. hemolysis vs. DIC.
   -[**Hospital1 **] HCT checks. Transfuse to keep HCT > 21
   -guaiac stools
   -obtain hemolysis labs
   -continue carafate for stress ulcer prophylaxis
   #HYPOTENSION. Patient with hypotension in setting of aggressive
   diuresis in the past. Responds to fluid bolus. No further hypotension.
   .
   #THROMBOCYTOPENIA: resolving.  Developed thrombocytopenia requiring
   platelet transfusion.  Heme onc thinks unlikely to be DIC, more likely
   to be marrow suppression from sepsis.  Peripheral smear shows no
   schistocytes, d-dimer, FDP increased.   Stable 75-100, currently 230.
   - Replete if under 10K or active bleeding
   - Continue to monitor plts
   - HIT Ab negative
   # RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   No history of kidney disease. Cr peaked at 4.7 on [**6-13**].  No longer on
   CVVH, net positive 1L overnight, Cr to 3.0 from 2.8.  Likely a
   combination of ATN from septic [**Month/Year (2) 281**] and aggressive diuresis. Tolerated
   HD well yesterday.
   - Continue HD, per renal recommendations
   - F/u renal recs
   .
   # Elevated LFTs. AST/ALT consistently elevated, however now with
   elevated alk phos and t bili. Initial RUQ u/s showed edematous
   gallbladder. Per liver concern for [**Month/Year (2) 281**] liver, vs. [**3-18**] sepsis,
   secondary viral infection, or acalculous cholecystitis. Per pharm,
   unlikely related to any of his medications. Today LFTs trending down
   yesterday. CT torso shows mild pancreatitis.
   - hepatitis serologies, EBV Abs pending, CMV negative, viral loads
   pending
   -continue trend LFTs
   - consider HIDA scan if persistent wbc, fevers, LFTs trend up
   .
   # HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   - holding HAART in setting of overwhelming septic [**Last Name (LF) 281**], [**First Name3 (LF) **] ID will
   continue to hold for now.
   .
   # DIABETES MELLITUS (DM), TYPE II
sugars overnight 200-250.
   cover with insulin sliding scale
   -Will increase lantus from 10 units to 12 units
   -goal blood sugars 150-200
   .
   # SPLENECTOMY. Patient up to date on immunizations.
   .
   #. FEN:TF
s, post pyloric tube placed, replete lytes prn
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2148-6-22**] 04:12 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-6-12**] 05:46 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: Carafate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-06-22 10:56:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2148-6-21**] 08:56 PM
 CT abdomen
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Erythromycin Base
   Hives;
   Biaxin (Oral) (Clarithromycin)
   Unknown; Hives;
   Ciprofloxacin
   gum pain;
   Last dose of Antibiotics:
   Levofloxacin - [**2148-6-19**] 10:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2148-6-21**] 01:00 AM
   Vancomycin - [**2148-6-22**] 05:10 AM
   Acyclovir - [**2148-6-22**] 08:00 AM
   Penicillin G potassium - [**2148-6-22**] 08:00 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2148-6-22**] 02:15 AM
   Fentanyl - [**2148-6-22**] 02:15 AM
   Heparin Sodium (Prophylaxis) - [**2148-6-22**] 04:11 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-6-22**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.2
   HR: 80 (79 - 104) bpm
   BP: 112/51(64) {93/41(55) - 145/81(91)} mmHg
   RR: 35 (26 - 35) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 12 (7 - 25)mmHg
   Total In:
                                                                  2,759 mL
                                                                  1,535 mL
   PO:
   TF:
                                                                  1,110 mL
                                                                    821 mL
   IVF:
                                                                  1,099 mL
                                                                    634 mL
   Blood products:
   Total out:
                                                                  1,795 mL
                                                                    185 mL
   Urine:
                                                                    295 mL
                                                                    185 mL
   NG:
   Stool:
                                                                  1,500 mL
   Drains:
   Balance:
                                                                    964 mL
                                                                  1,350 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   Compliance: 31.7 cmH2O/mL
   SpO2: 95%
   ABG: ///29/
   Ve: 13.1 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   230 K/uL
   195 mg/dL
   3.0 mg/dL
   29 mEq/L
   4.3 mEq/L
   37 mg/dL
   103 mEq/L
   140 mEq/L
   23.5 %
   21.6 K/uL
        [image002.jpg]
                             [**2148-6-20**]  03:39 AM
                             [**2148-6-20**]  03:51 AM
                             [**2148-6-20**]  09:52 AM
                             [**2148-6-20**]  10:06 AM
                             [**2148-6-20**]  11:53 AM
                             [**2148-6-20**]  04:09 PM
                             [**2148-6-20**]  04:22 PM
                             [**2148-6-21**]  03:04 AM
                             [**2148-6-21**]  07:50 AM
                             [**2148-6-22**]  04:01 AM
   WBC
   38.7
   36.8
   37.2
   21.6
   Hct
   29.0
   29.4
   28.5
   23.5
   Plt
   77
   95
   141
   230
   Cr
   1.8
   2.1
   2.8
   3.0
   TCO2
   24
   24
   23
   26
   24
   Glucose
   197
   160
   141
   195
   195
   Other labs: PT / PTT / INR:18.1/35.5/1.7, ALT / AST:112/123, Alk Phos /
   T Bili:601/1.3, Amylase / Lipase:231/777, D-dimer:[**Numeric Identifier 7265**] ng/mL,
   Fibrinogen:424 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.5 g/dL, LDH:438
   IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Strep viridans
   cont abx
   h/o splenectomy
 FEVER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   cont require mech ventilation
   making progress weaning PEEP
 DIABETES MELLITUS (DM), TYPE II
   FSG/SSRI
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   requiring dialysis
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2148-6-22**] 04:12 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-6-12**] 05:46 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 40 minutes
   Patient is critically ill

2148-06-23 07:24:00 Physician Resident Progress Note
24 Hour Events:
   patient more arousable
   +2L
   HD line removed two days ago, tip has been sent for culture.
   Nephrology will consider tunneled catheter on Monday.
   Allergies:
   Erythromycin Base
   Hives;
   Biaxin (Oral) (Clarithromycin)
   Unknown; Hives;
   Ciprofloxacin
   gum pain;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2148-6-21**] 01:00 AM
   Vancomycin - [**2148-6-22**] 05:10 AM
   Acyclovir - [**2148-6-22**] 08:00 AM
   Penicillin G potassium - [**2148-6-23**] 04:26 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-6-23**] 04:26 AM
   Fentanyl - [**2148-6-23**] 04:27 AM
   Midazolam (Versed) - [**2148-6-23**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-6-23**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98.1
   HR: 78 (78 - 105) bpm
   BP: 112/55(68) {112/48(64) - 166/89(103)} mmHg
   RR: 13 (13 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 8 (5 - 12)mmHg
   Total In:
                                                                  2,932 mL
                                                                    732 mL
   PO:
   TF:
                                                                  1,861 mL
                                                                    504 mL
   IVF:
                                                                    916 mL
                                                                    198 mL
   Blood products:
   Total out:
                                                                    815 mL
                                                                    200 mL
   Urine:
                                                                    415 mL
                                                                    200 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  2,117 mL
                                                                    532 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (380 - 500) mL
   Vt (Spontaneous): 461 (461 - 674) mL
   PS : 16 cmH2O
   RR (Set): 14
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 186
   PIP: 25 cmH2O
   SpO2: 97%
   ABG: ///25/
   Ve: 9 L/min
   Physical Examination
   Gen: intubated, sedated. Arousable to voice.
   HEENT: tube in place. NCAT.
   CV: distant HS,  No murmurs heard.
   Chest: CTAB on anterior exam.
   Abd: obese, soft, ND
   Ext: warm, well perfused. No edema
   Labs / Radiology
   355 K/uL
   8.2 g/dL
   185 mg/dL
   4.3 mg/dL
   25 mEq/L
   5.0 mEq/L
   52 mg/dL
   100 mEq/L
   137 mEq/L
   24.4 %
   17.4 K/uL
        [image002.jpg]
                             [**2148-6-20**]  10:06 AM
                             [**2148-6-20**]  11:53 AM
                             [**2148-6-20**]  04:09 PM
                             [**2148-6-20**]  04:22 PM
                             [**2148-6-21**]  03:04 AM
                             [**2148-6-21**]  07:50 AM
                             [**2148-6-22**]  04:01 AM
                             [**2148-6-22**]  12:00 PM
                             [**2148-6-22**]  06:00 PM
                             [**2148-6-23**]  04:10 AM
   WBC
   36.8
   37.2
   21.6
   17.4
   Hct
   29.4
   28.5
   23.5
   24.9
   26.3
   24.4
   Plt
   95
   141
   230
   355
   Cr
   2.1
   2.8
   3.0
   3.7
   4.3
   TCO2
   24
   23
   26
   24
   Glucose
   141
   195
   195
   189
   185
   Other labs: PT / PTT / INR:16.6/31.6/1.5, ALT / AST:60/49, Alk Phos / T
   Bili:381/0.8, Amylase / Lipase:231/202, D-dimer:[**Numeric Identifier 7265**] ng/mL,
   Fibrinogen:424 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.5 g/dL, LDH:294
   IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:4.8 mg/dL
   Imaging: CT torso [**6-21**] wet read:
   1. No abscess/ collection in the torso.
   2. Findings consistent with mild pancreatitis.
   3. Small bilateral pleural effusions and associated atelectasis. Patchy
   opacity in the left upper lobe may represent atelectasis or
   consolidation,
   please correlate.
   BCx x 4 ([**6-21**]): Pnd
   Catheter Tip Cx ([**6-21**]): Pnd
   Assessment and Plan
   57 yo man with HIV, h/o splenectomy, presents with acute onset of
   fevers, chills, hypotension, now with septic [**Month/Day (4) 281**] and worsening renal
   failure.
   # SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)/ LEUKOCYTOSIS
   Pt presented with rigors and fevers, only localizing factor was mild
   abdominal tenderness and diarrhea, as well as progressing hypoxia. Was
   febrile and hypotension in ED. [**3-18**] BCx ([**6-12**] 1 am) growing strep
   viridans now with septic [**Month/Year (2) 281**]. Initially required 4 pressors, now off
   pressors, MAPs improved.  Received one dose of IVIG on [**6-13**] for concern
   for group A strep.  Also initially treated with xigris, now off. TEE
   [**6-18**] showed no vegetations.  Gentamicin d/c
d given TEE findings.
   Patient with persistent leukocytosis despite other indicators sepsis is
   improving. Labs [**6-18**] showed elevated amylase and lipase concerning for
   pancreatitis. Patient also with evidence of oral HSV.  WBC at 37.2 on
   [**6-21**], febrile to 101, pan cultured and empirically gave 1 dose of vanc
   and zosyn. This was discontinued overnight. WBC down to 21.6, now at
   17.6.  Tmax 99.3.  BCx, catheter tip Cx pending.
   - Continue penicillin for a total 10 day course (Day [**10-24**])
   - Tylenol prn
   - F/U BCx, tip Cx
   - Continue to monitor for sources of infection, f/u final read of CT
   Torso scan.
   .
   # RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Intubated [**6-12**], was initially difficult to ventilate and required
   paralysis with cisatricuronium and FiO2s of 100, PEEP 20, RR of 35.
   Thoracentesis by IP showed transudative fluid.   Currently on FiO2 of
   40% with PEEP of 8, PS 16.  Current ABG demonstrates increased pO2.
   - on ARDS vent settings
   - Continue weaning PEEP
   .
   # HCT drop: Hct at 24.5, has dropped since admission. Potential
   etiologies include GI bleed vs. hemolysis vs. DIC.
   -[**Hospital1 **] HCT checks. Transfuse to keep HCT > 21
   -guaiac stools
   -obtain hemolysis labs
   -continue carafate for stress ulcer prophylaxis
   #HYPOTENSION. Patient with hypotension in setting of aggressive
   diuresis in the past. Responds to fluid bolus. No further hypotension.
   .
   #THROMBOCYTOPENIA: resolving.  Developed thrombocytopenia requiring
   platelet transfusion.  Heme onc thinks unlikely to be DIC, more likely
   to be marrow suppression from sepsis.  Peripheral smear shows no
   schistocytes, d-dimer, FDP increased.   Stable 75-100, currently 355.
   - Replete if under 10K or active bleeding
   - Continue to monitor plts
   - HIT Ab negative
   # RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   No history of kidney disease. Cr peaked at 4.7 on [**6-13**].  No longer on
   CVVH, net positive 2.6 L overnight, Cr to4.3.  Likely a combination of
   ATN from septic [**Month/Year (2) 281**] and aggressive diuresis. Tolerated HD well two
   days ago, may receive a tunneled cath tomorrow.
   - Continue HD tomorrow with tunneled cath, per renal recommendations
   - F/u renal recs
   .
   # Elevated LFTs. AST/ALT consistently elevated, however now with
   elevated alk phos and t bili. Initial RUQ u/s showed edematous
   gallbladder. Per liver concern for [**Month/Year (2) 281**] liver, vs. [**3-18**] sepsis,
   secondary viral infection, or acalculous cholecystitis. Per pharm,
   unlikely related to any of his medications. Today LFTs trending down.
   CT torso shows mild pancreatitis.
   - hepatitis serologies, EBV Abs pending, CMV negative, viral loads
   negative
   - continue trend LFTs
   - consider HIDA scan if persistent wbc, fevers, LFTs trend up
   .
   # HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   - holding HAART in setting of overwhelming septic [**Last Name (LF) 281**], [**First Name3 (LF) **] ID will
   continue to hold for now.
   .
   # DIABETES MELLITUS (DM), TYPE II
sugars overnight 200-250.
   cover with insulin sliding scale
   -Will increase lantus from 10 units to 12 units
   -goal blood sugars 150-200
   .
   # SPLENECTOMY. Patient up to date on immunizations.
   .
   #. FEN:TF
s, post pyloric tube placed, replete lytes prn
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2148-6-22**] 04:12 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-6-12**] 05:46 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: Carafate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU

2148-06-23 11:55:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - more alert/interactive today
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Erythromycin Base
   Hives;
   Biaxin (Oral) (Clarithromycin)
   Unknown; Hives;
   Ciprofloxacin
   gum pain;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2148-6-21**] 01:00 AM
   Vancomycin - [**2148-6-22**] 05:10 AM
   Acyclovir - [**2148-6-23**] 08:00 AM
   Penicillin G potassium - [**2148-6-23**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-6-23**] 04:26 AM
   Fentanyl - [**2148-6-23**] 04:27 AM
   Midazolam (Versed) - [**2148-6-23**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-6-23**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.4
   HR: 77 (77 - 105) bpm
   BP: 118/58(71) {112/52(68) - 166/89(103)} mmHg
   RR: 12 (10 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 6 (5 - 12)mmHg
   Total In:
                                                                  2,932 mL
                                                                  1,295 mL
   PO:
   TF:
                                                                  1,861 mL
                                                                    815 mL
   IVF:
                                                                    916 mL
                                                                    420 mL
   Blood products:
   Total out:
                                                                    815 mL
                                                                    305 mL
   Urine:
                                                                    415 mL
                                                                    305 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  2,117 mL
                                                                    990 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 417 (417 - 674) mL
   PS : 16 cmH2O
   RR (Set): 14
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 186
   PIP: 25 cmH2O
   SpO2: 96%
   ABG: ///25/
   Ve: 9.2 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   355 K/uL
   185 mg/dL
   4.3 mg/dL
   25 mEq/L
   5.0 mEq/L
   52 mg/dL
   100 mEq/L
   137 mEq/L
   24.4 %
   17.4 K/uL
        [image002.jpg]
                             [**2148-6-20**]  10:06 AM
                             [**2148-6-20**]  11:53 AM
                             [**2148-6-20**]  04:09 PM
                             [**2148-6-20**]  04:22 PM
                             [**2148-6-21**]  03:04 AM
                             [**2148-6-21**]  07:50 AM
                             [**2148-6-22**]  04:01 AM
                             [**2148-6-22**]  12:00 PM
                             [**2148-6-22**]  06:00 PM
                             [**2148-6-23**]  04:10 AM
   WBC
   36.8
   37.2
   21.6
   17.4
   Hct
   29.4
   28.5
   23.5
   24.9
   26.3
   24.4
   Plt
   95
   141
   230
   355
   Cr
   2.1
   2.8
   3.0
   3.7
   4.3
   TCO2
   24
   23
   26
   24
   Glucose
   141
   195
   195
   189
   185
   Other labs: PT / PTT / INR:16.6/31.6/1.5, ALT / AST:60/49, Alk Phos / T
   Bili:381/0.8, Amylase / Lipase:231/202, D-dimer:[**Numeric Identifier 7265**] ng/mL,
   Fibrinogen:424 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.5 g/dL, LDH:294
   IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Strep viridans
   abx narrowed to PCN G given isolate
   h/o splenectomy
   hemodynamics improved
 FEVER
   resolved
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   cont require mech ventilation
   making progress weaning PEEP
 DIABETES MELLITUS (DM), TYPE II
   FSG/SSRI
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   requiring dialysis
   considering tunneled cath
   urine output increasing 30cc/hr
 THROMBOCYTOPENIA
   resolving
 HIV
   holding HAART therapy
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2148-6-23**] 07:09 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-6-12**] 05:46 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 minutes
   Patient is critically ill

2148-06-24 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Renal recs to make patient NPO for tomorrow for possible tunneled
   cath HD line placement; however, if patient's urine output is picking
   up (last UOP decidedly more than prev. at 100-110 every 2 hours)
   - Holding heparin
   - Patient sitting up, responsive to questions
   - ABG pristine on PS ventilation (7.42/40/90)
   Allergies:
   Erythromycin Base
   Hives;
   Biaxin (Oral) (Clarithromycin)
   Unknown; Hives;
   Ciprofloxacin
   gum pain;
   Last dose of Antibiotics:
   Vancomycin - [**2148-6-22**] 05:10 AM
   Acyclovir - [**2148-6-23**] 08:00 AM
   Penicillin G potassium - [**2148-6-24**] 04:01 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-6-23**] 07:55 PM
   Fentanyl - [**2148-6-24**] 03:49 AM
   Midazolam (Versed) - [**2148-6-24**] 03:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-6-24**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98.1
   HR: 79 (76 - 99) bpm
   BP: 126/61(75) {114/57(71) - 152/73(97)} mmHg
   RR: 19 (10 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 6 (6 - 6)mmHg
   Total In:
                                                                  2,555 mL
                                                                    452 mL
   PO:
   TF:
                                                                  1,686 mL
                                                                    229 mL
   IVF:
                                                                    779 mL
                                                                    223 mL
   Blood products:
   Total out:
                                                                  1,095 mL
                                                                  1,025 mL
   Urine:
                                                                  1,095 mL
                                                                    425 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                  1,460 mL
                                                                   -573 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 486 (392 - 573) mL
   PS : 16 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 72
   PIP: 22 cmH2O
   SpO2: 95%
   ABG: 7.42/40/90.[**Numeric Identifier 126**]/24/0
   Ve: 9.3 L/min
   PaO2 / FiO2: 225
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   489 K/uL
   8.4 g/dL
   160 mg/dL
   5.3 mg/dL
   24 mEq/L
   5.4 mEq/L
   64 mg/dL
   100 mEq/L
   138 mEq/L
   26.0 %
   15.4 K/uL
        [image002.jpg]
                             [**2148-6-20**]  04:22 PM
                             [**2148-6-21**]  03:04 AM
                             [**2148-6-21**]  07:50 AM
                             [**2148-6-22**]  04:01 AM
                             [**2148-6-22**]  12:00 PM
                             [**2148-6-22**]  06:00 PM
                             [**2148-6-23**]  04:10 AM
                             [**2148-6-23**]  04:27 PM
                             [**2148-6-23**]  05:30 PM
                             [**2148-6-24**]  03:52 AM
   WBC
   37.2
   21.6
   17.4
   15.4
   Hct
   28.5
   23.5
   24.9
   26.3
   24.4
   24.8
   26.0
   Plt
   141
   230
   355
   489
   Cr
   2.8
   3.0
   3.7
   4.3
   4.8
   5.3
   TCO2
   26
   24
   27
   Glucose
   195
   195
   189
   185
   210
   160
   Other labs: PT / PTT / INR:15.9/30.4/1.4, ALT / AST:50/37, Alk Phos / T
   Bili:332/0.8, Amylase / Lipase:231/202, D-dimer:[**Numeric Identifier 7265**] ng/mL,
   Fibrinogen:424 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.5 g/dL, LDH:249
   IU/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:6.3 mg/dL
   Assessment and Plan
   yo man with HIV, h/o splenectomy, presents with acute onset of fevers,
   chills, hypotension, now with septic [**Numeric Identifier 281**] and worsening renal failure.
   # SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)/ LEUKOCYTOSIS
   Pt presented with rigors and fevers, only localizing factor was mild
   abdominal tenderness and diarrhea, as well as progressing hypoxia. Was
   febrile and hypotension in ED. [**3-18**] BCx ([**6-12**] 1 am) growing strep
   viridans now with septic [**Month/Year (2) 281**]. Initially required 4 pressors, now off
   pressors, MAPs improved.  Received one dose of IVIG on [**6-13**] for concern
   for group A strep.  Also initially treated with xigris, now off. TEE
   [**6-18**] showed no vegetations.  Gentamicin d/c
d given TEE findings.
   Patient with persistent leukocytosis despite other indicators sepsis is
   improving. Labs [**6-18**] showed elevated amylase and lipase concerning for
   pancreatitis. Patient also with evidence of oral HSV.  WBC at 37.2 on
   [**6-21**], febrile to 101, pan cultured and empirically gave 1 dose of vanc
   and zosyn. This was discontinued overnight. WBC down to 21.6, now at
   17.6.  Tmax 99.3.  BCx, catheter tip Cx pending.
   - Continue penicillin for a total 10 day course (5/11=[**11-23**])
   - Tylenol prn
   - F/U BCx, tip Cx
   - Continue to monitor for sources of infection, f/u final read of CT
   Torso scan.
   .
   # RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Intubated [**6-12**], was initially difficult to ventilate and required
   paralysis with cisatricuronium and FiO2s of 100, PEEP 20, RR of 35.
   Thoracentesis by IP showed transudative fluid.   Currently on FiO2 of
   40% with PEEP of 5, PS 16.  Current ABG 7.42/40/90.
   - on ARDS vent settings
   .
   # HCT drop: Hct up from 24.5 to 26, has dropped since admission.
   Potential etiologies include GI bleed vs. hemolysis vs. DIC.
   -[**Hospital1 **] HCT checks. Transfuse to keep HCT > 21
   -guaiac stools
   -obtain hemolysis labs
   -continue carafate for stress ulcer prophylaxis
   #HYPOTENSION. Patient with hypotension in setting of aggressive
   diuresis in the past. Responds to fluid bolus. No further hypotension.
   .
   #THROMBOCYTOPENIA: resolving.  Developed thrombocytopenia requiring
   platelet transfusion.  Heme onc thinks unlikely to be DIC, more likely
   to be marrow suppression from sepsis.  Peripheral smear shows no
   schistocytes, d-dimer, FDP increased.   Have trended up.  currently
   489.
   - Replete if under 10K or active bleeding
   - Continue to monitor plts
   - HIT Ab negative
   # RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   No history of kidney disease. Cr peaked at 4.7 on [**6-13**].  No longer on
   CVVH, UOP increasing 50-100 cc/hour,  Cr to 5.3 today.  Likely a
   combination of ATN from septic [**Month/Year (2) 281**] and aggressive diuresis. Tolerated
   HD well two days ago, may receive a tunneled cath today.
   - Continue HD today with tunneled cath, per renal recommendations
   - F/u renal recs
   .
   # Elevated LFTs. AST/ALT consistently elevated, however now with
   elevated alk phos and t bili. Initial RUQ u/s showed edematous
   gallbladder. Per liver concern for [**Month/Year (2) 281**] liver, vs. [**3-18**] sepsis,
   secondary viral infection, or acalculous cholecystitis. Per pharm,
   unlikely related to any of his medications. LFTs trending down, alk
   phos 300s. CT torso shows mild pancreatitis.
   - hepatitis serologies, EBV Abs pending, CMV negative, viral loads
   negative
   - continue trend LFTs
   - consider HIDA scan if persistent wbc, fevers, LFTs trend up
   .
   # HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   - holding HAART in setting of overwhelming septic [**Last Name (LF) 281**], [**First Name3 (LF) **] ID will
   continue to hold for now.
   .
   # DIABETES MELLITUS (DM), TYPE II
sugars overnight 200-250.
   cover with insulin sliding scale
   -Will increase lantus from 10 units to 12 units
   -goal blood sugars 150-200
   .
   # SPLENECTOMY. Patient up to date on immunizations.
   .
   #. FEN:TF
s, post pyloric tube placed, replete lytes prn
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-6-12**] 05:46 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-06-25 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -See ID recs for recommendations on restarting HAART, deferred until
   tomorrow, ? need for HD
   -given haldol for agitation
   - sedated with propofol as grabbing at ET tube
   - desat with turning, required increase in PEEP from 5-> 8, increased
   FiO2 40-> 50 %
   Allergies:
   Erythromycin Base
   Hives;
   Biaxin (Oral) (Clarithromycin)
   Unknown; Hives;
   Ciprofloxacin
   gum pain;
   Last dose of Antibiotics:
   Acyclovir - [**2148-6-24**] 08:00 AM
   Penicillin G potassium - [**2148-6-25**] 04:00 AM
   Infusions:
   Propofol - 100 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2148-6-24**] 07:40 PM
   Fentanyl - [**2148-6-24**] 07:40 PM
   Heparin Sodium (Prophylaxis) - [**2148-6-24**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-6-25**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.5
   HR: 72 (67 - 101) bpm
   BP: 146/90(100) {110/52(67) - 170/90(100)} mmHg
   RR: 22 (19 - 36) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,768 mL
                                                                    610 mL
   PO:
             TF:
                                                                    295 mL
                                                                      5 mL
   IVF:
                                                                    933 mL
                                                                    575 mL
   Blood products:
   Total out:
                                                                  3,775 mL
                                                                  1,085 mL
   Urine:
                                                                  2,175 mL
                                                                    435 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                 -2,007 mL
                                                                   -475 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 339 (339 - 479) mL
   PS : 16 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 135
   PIP: 19 cmH2O
   SpO2: 96%
   ABG: 7.41/40/99.[**Numeric Identifier 126**]/24/0
   Ve: 8.4 L/min
   PaO2 / FiO2: 198
   Physical Examination
   Gen: intubated, awake, appears uncomfortable
   HEENT: tube in place. NCAT.
   CV: distant HS,  No murmurs heard.
   Chest: decreased bs at bases
   Abd: obese, soft, ND
   Ext: warm, well perfused. Trace edema
   Neuro: awake, confused
   Labs / Radiology
   525 K/uL
   7.6 g/dL
   112 mg/dL
   6.1 mg/dL
   24 mEq/L
   5.1 mEq/L
   69 mg/dL
   103 mEq/L
   141 mEq/L
   23.4 %
   6.0 K/uL
        [image002.jpg]
                             [**2148-6-22**]  04:01 AM
                             [**2148-6-22**]  12:00 PM
                             [**2148-6-22**]  06:00 PM
                             [**2148-6-23**]  04:10 AM
                             [**2148-6-23**]  04:27 PM
                             [**2148-6-23**]  05:30 PM
                             [**2148-6-24**]  03:52 AM
                             [**2148-6-24**]  04:00 PM
                             [**2148-6-25**]  03:06 AM
                             [**2148-6-25**]  05:39 AM
   WBC
   21.6
   17.4
   15.4
   6.0
   Hct
   23.5
   24.9
   26.3
   24.4
   24.8
   26.0
   23.4
   Plt
   230
   355
   489
   525
   Cr
   3.0
   3.7
   4.3
   4.8
   5.3
   5.7
   6.1
   TCO2
   27
   26
   Glucose
   195
   189
   185
   [**Telephone/Fax (3) 7508**]
   112
   Other labs: PT / PTT / INR:15.4/30.4/1.4, ALT / AST:37/26, Alk Phos / T
   Bili:234/0.6, Amylase / Lipase:231/202, D-dimer:[**Numeric Identifier 7265**] ng/mL,
   Fibrinogen:424 mg/dL, Lactic Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:207
   IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:6.9 mg/dL
   Assessment and Plan
   57 yo man with HIV, h/o splenectomy, presents with acute onset of
   fevers, chills, hypotension, now with septic shock and renal failure.
   # SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)/ LEUKOCYTOSIS
   Pt presented with rigors and fevers, only localizing factor was mild
   abdominal tenderness and diarrhea, as well as progressing hypoxia. Was
   febrile and hypotension in ED. [**3-18**] BCx ([**6-12**] 1 am) growing strep
   viridans now with septic shock. Initially required 4 pressors, now off
   pressors, MAPs improved.  Received one dose of IVIG on [**6-13**] for concern
   for group A strep.  Also initially treated with xigris, now off. TEE
   [**6-18**] showed no vegetations.  Gentamicin d/c
d given TEE findings.
   Patient with persistent leukocytosis despite other indicators sepsis is
   improving. Labs [**6-18**] showed elevated amylase and lipase concerning for
   pancreatitis. Patient also with evidence of oral HSV.  WBC at 37.2 on
   [**6-21**], febrile to 101, pan cultured and empirically gave 1 dose of vanc
   and zosyn. This was discontinued overnight. WBC continues to trend
   down, now 6.0.  Afebrile o/n.
   - D/c penicillin today as completed 10 day course
   - Tylenol prn
   - F/U BCx, tip Cx
   - D/w ID d/cing acyclovir as now day 8 for oral HSV
   - Consider removing CVL when pIVs obtained
   - Continue to monitor for sources of secondary infection
   .
   # RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Intubated [**6-12**], was initially difficult to ventilate and required
   paralysis with cisatricuronium and FiO2s of 100, PEEP 20, RR of 35.
   Thoracentesis by IP showed transudative fluid.   Settings increased to
   FiO2 of 50% with PEEP of 8, PS 16.  Current ABG 7.41/40/99.
   - wean FiO2 and PEEP as tolerated
   .
   # HCT drop: Hct trend-> 24.5-> 26 to 23.4 today, has dropped since
   admission. Potential etiologies include GI bleed vs. hemolysis vs.
   DIC.  Hemolysis labs LDH 289, haptoglobin 233.
   -[**Hospital1 **] HCT checks. Transfuse to keep HCT > 21
   -guaiac stools
   -continue carafate/PPI for stress ulcer prophylaxis
   -hold heparin SQ
   .
   #HYPOTENSION. Patient with hypotension in setting of aggressive
   diuresis in the past. Responds to fluid bolus. No further hypotension.
   .
   #THROMBOCYTOPENIA: Developed thrombocytopenia requiring platelet
   transfusion.  Heme onc thinks unlikely to be DIC, more likely to be
   marrow suppression from sepsis.  Peripheral smear shows no
   schistocytes, d-dimer, FDP increased.   Now resolved. Currently 525.
   - Continue to monitor plts
   - HIT Ab negative
   # RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   No history of kidney disease. Cr peaked at 4.7 on [**6-13**].  No longer on
   CVVH, UOP increasing 2.2 L urine yesterday, Cr to 6.1 today. K 5.1.
   Likely a combination of ATN from septic shock and aggressive diuresis.
   Tolerated HD well on Friday.
   - Per renal will held off on tunneled catheter for now
   - Continue to monitor UOP, Cr, and K
   .
   # Elevated LFTs. AST/ALT consistently elevated, however now with
   elevated alk phos and t bili. Initial RUQ u/s showed edematous
   gallbladder. Per liver concern for shock liver, vs. [**3-18**] sepsis,
   secondary viral infection, or acalculous cholecystitis. Per pharm,
   unlikely related to any of his medications. LFTs continue to trend
   down. CT torso shows mild pancreatitis.
   - Hep B surface and core AB positive, Hep C Ab neg, EBV IgM negative,
   CMV negative, viral loads negative
   - continue to trend LFTs
   .
   # HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   - restart HAART per ID recs
   .
   # DIABETES MELLITUS (DM), TYPE II
sugars overnight 200-250.
   cover with insulin sliding scale
   -Will increase lantus from 10 units to 12 units
   -goal blood sugars 150-200
   .
   # SPLENECTOMY. Patient up to date on immunizations.
   .
   #. FEN:TF
s, post pyloric tube feeds, replete lytes prn
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:  R IJ, pIV
   Multi Lumen - [**2148-6-12**] 05:46 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: husband [**Name (NI) 2632**]
   [**Name (NI) 36**] status: Full code
   Disposition: ICU

2148-06-26 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2148-6-25**] 08:08 PM
   - K 5.8 on PM labs, given kayexalate, EKG showed no peaked T waves
   - Per renal no HAART until renal fxn improves
   - Per ID 14 day course of PCN, d/c acyclovir after dose today
   Allergies:
   Erythromycin Base
   Hives;
   Biaxin (Oral) (Clarithromycin)
   Unknown; Hives;
   Ciprofloxacin
   gum pain;
   Last dose of Antibiotics:
   Acyclovir - [**2148-6-25**] 08:00 AM
   Penicillin G potassium - [**2148-6-26**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-6-26**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.3
C (97.3
   HR: 75 (61 - 86) bpm
   BP: 134/71(85) {130/57(62) - 165/81(99)} mmHg
   RR: 28 (12 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,417 mL
                                                                    795 mL
   PO:
             TF:
                                                                    331 mL
                                                                    268 mL
   IVF:
                                                                  1,906 mL
                                                                    527 mL
   Blood products:
   Total out:
                                                                  2,955 mL
                                                                  1,750 mL
   Urine:
                                                                  2,305 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -538 mL
                                                                   -954 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 467 (440 - 650) mL
   PS : 14 cmH2O
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 83
   PIP: 22 cmH2O
   SpO2: 96%
   ABG:
   Ve: 8.6 L/min
   Physical Examination
   Gen: intubated, sedated
   HEENT: ETT tube in place, NCAT.
   CV: distant HS,  No m/r/g
   Chest: decreased bs at bases, few rhonchi
   Abd: obese, soft, ND
   Ext: warm, well perfused. Trace edema
   Neuro: sedated
   Labs / Radiology
   625 K/uL
   7.4 g/dL
   148 mg/dL
   6.5 mg/dL
   22 mEq/L
   5.3 mEq/L
   75 mg/dL
   101 mEq/L
   140 mEq/L
   22.7 %
   4.3 K/uL
        [image002.jpg]
                             [**2148-6-22**]  06:00 PM
                             [**2148-6-23**]  04:10 AM
                             [**2148-6-23**]  04:27 PM
                             [**2148-6-23**]  05:30 PM
                             [**2148-6-24**]  03:52 AM
                             [**2148-6-24**]  04:00 PM
                             [**2148-6-25**]  03:06 AM
                             [**2148-6-25**]  05:39 AM
                             [**2148-6-25**]  03:54 PM
                             [**2148-6-26**]  02:57 AM
   WBC
   17.4
   15.4
   6.0
   4.3
   Hct
   26.3
   24.4
   24.8
   26.0
   23.4
   24.4
   22.7
   Plt
   355
   489
   525
   625
   Cr
   3.7
   4.3
   4.8
   5.3
   5.7
   6.1
   6.4
   6.5
   TCO2
   27
   26
   Glucose
   189
   185
   210
   160
   123
   112
   110
   148
   Other labs: PT / PTT / INR:14.8/27.5/1.3, ALT / AST:37/26, Alk Phos / T
   Bili:234/0.6, Amylase / Lipase:231/202, D-dimer:[**Numeric Identifier 7265**] ng/mL,
   Fibrinogen:424 mg/dL, Lactic Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:207
   IU/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:8.9 mg/dL
   Assessment and Plan
   57 yo man with HIV, h/o splenectomy, presents with acute onset of
   fevers, chills, hypotension, now with septic shock and renal failure.
   # SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)/ LEUKOCYTOSIS
   Pt presented with rigors and fevers, only localizing factor was mild
   abdominal tenderness and diarrhea, as well as progressing hypoxia. Was
   febrile and hypotension in ED. [**3-18**] BCx ([**6-12**] 1 am) growing strep
   viridans now with septic shock. Initially required 4 pressors, now off
   pressors, MAPs improved.  Received one dose of IVIG on [**6-13**] for concern
   for group A strep.  Also initially treated with xigris, now off. TEE
   [**6-18**] showed no vegetations.  Gentamicin d/c
d given TEE findings.
   Patient with persistent leukocytosis despite other indicators sepsis is
   improving. Labs [**6-18**] showed elevated amylase and lipase concerning for
   pancreatitis. Patient also with evidence of oral HSV.  WBC at 37.2 on
   [**6-21**], febrile to 101, pan cultured and empirically gave 1 dose of vanc
   and zosyn. This was discontinued overnight. WBC continues to trend
   down, now 6.0.  Afebrile o/n.
   - [**6-26**] = Day [**1-27**] of pencillin
   - Tylenol prn
   - F/U BCx, tip Cx
   - will d/c acyclovir for oral HSV after dosing today
   - Consider removing CVL when pIVs obtained
   - Continue to monitor for sources of secondary infection
   .
   # RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Intubated [**6-12**], was initially difficult to ventilate and required
   paralysis with cisatricuronium and FiO2s of 100, PEEP 20, RR of 35.
   Thoracentesis by IP showed transudative fluid.   Settings increased to
   FiO2 of 40% with PEEP of 8, PS 14.  Current ABG 7.41/40/99.
   - wean FiO2 and PEEP as tolerated
   .
   # HCT drop: Hct trend-> 22.7 from 23.4 today, has dropped since
   admission. Potential etiologies include GI bleed vs. hemolysis vs.
   DIC.  Hemolysis unlikely as labs LDH 289, haptoglobin 233.
   -[**Hospital1 **] HCT checks. Transfuse to keep HCT > 21
   -guaiac stools
   -continue carafate/PPI for stress ulcer prophylaxis
   -holding heparin SQ
   .
   #HYPOTENSION. Patient with hypotension in setting of aggressive
   diuresis in the past. Responds to fluid bolus. No further hypotension.
   .
   #THROMBOCYTOPENIA: Developed thrombocytopenia requiring platelet
   transfusion.  Heme onc thinks unlikely to be DIC, more likely to be
   marrow suppression from sepsis.  Peripheral smear shows no
   schistocytes, d-dimer, FDP increased.   Now resolved. Currently 625
   - Continue to monitor plts
   - HIT Ab negative
   # RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   No history of kidney disease. Had acute renal failure with anuria and
   Creatinine to 4.7 requiring CVVH. Now renal function appears to be
   recovering, off CVVH, UOP increasing 2.3 L urine yesterday, Cr
   continues to climb, 6.5 from 6.1 today. K to 5.8 with PM labs yesterday
   (given kayexlate), now 5.3.  Last HD [**6-21**].
   - Per renal holding on dialysis, will follow renal recs
   - Continue to monitor UOP, electrolytes
   .
   # Elevated LFTs. AST/ALT consistently elevated, however now with
   elevated alk phos and t bili. Initial RUQ u/s showed edematous
   gallbladder. Per liver concern for shock liver, vs. [**3-18**] sepsis,
   secondary viral infection, or acalculous cholecystitis. Per pharm,
   unlikely related to any of his medications. LFTs continue to trend
   down. CT torso shows mild pancreatitis.
   - Hep B surface and core AB positive, Hep C Ab neg, EBV IgM negative,
   CMV negative, viral loads negative
   .
   # HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   - per renal will hold HAART until renal function improves
   - f/u ID and renal recs
   .
   # DIABETES MELLITUS (DM), TYPE II
sugars overnight 200-250.
   cover with insulin sliding scale
   -Will increase lantus from 10 units to 12 units
   -goal blood sugars 150-200
   .
   # SPLENECTOMY. Patient up to date on immunizations.
   .
   #. FEN:TF
s, post pyloric tube feeds, replete lytes prn
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2148-6-25**] 11:21 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-6-12**] 05:46 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-06-27 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2148-6-26**] 09:12 AM
 MULTI LUMEN - STOP [**2148-6-26**] 06:00 PM
 WOUND CULTURE - At [**2148-6-26**] 06:00 PM
   central line catheter tip
 PICC LINE - STOP [**2148-6-26**] 08:22 PM
 MIDLINE - START [**2148-6-26**] 08:22 PM
   - Continue PSV wean of driving pressure down to 12/8.
   - CVL d/c'd.
   Allergies:
   Erythromycin Base
   Hives;
   Biaxin (Oral) (Clarithromycin)
   Unknown; Hives;
   Ciprofloxacin
   gum pain;
   Last dose of Antibiotics:
   Acyclovir - [**2148-6-26**] 07:40 AM
   Penicillin G potassium - [**2148-6-27**] 04:01 AM
   Infusions:
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2148-6-26**] 08:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-6-27**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.3
C (97.3
   HR: 70 (68 - 87) bpm
   BP: 130/66(80) {128/54(71) - 162/76(94)} mmHg
   RR: 28 (16 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,363 mL
                                                                    624 mL
   PO:
             TF:
                                                                    785 mL
                                                                     75 mL
   IVF:
                                                                  2,198 mL
                                                                    549 mL
   Blood products:
   Total out:
                                                                  4,450 mL
                                                                    820 mL
   Urine:
                                                                  3,450 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,087 mL
                                                                   -196 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 380 (330 - 611) mL
   PS : 12 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   SpO2: 93%
   ABG: 7.36/40/117/18/-2
   Ve: 7.8 L/min
   PaO2 / FiO2: 293
   Physical Examination
   Gen: intubated, sedated
   HEENT: ETT tube in place, NCAT.
   CV: distant HS,  No m/r/g
   Chest: decreased bs at bases, few rhonchi
   Abd: obese, soft, ND
   Ext: warm, well perfused. Trace edema
   Neuro: sedated
   Labs / Radiology
   709 K/uL
   7.4 g/dL
   82 mg/dL
   6.0 mg/dL
   18 mEq/L
   5.1 mEq/L
   73 mg/dL
   98 mEq/L
   131 mEq/L
   24.0 %
   4.8 K/uL
        [image002.jpg]
                             [**2148-6-24**]  03:52 AM
                             [**2148-6-24**]  04:00 PM
                             [**2148-6-25**]  03:06 AM
                             [**2148-6-25**]  05:39 AM
                             [**2148-6-25**]  03:54 PM
                             [**2148-6-26**]  02:57 AM
                             [**2148-6-26**]  01:30 PM
                             [**2148-6-26**]  05:15 PM
                             [**2148-6-27**]  03:07 AM
                             [**2148-6-27**]  04:19 AM
   WBC
   15.4
   6.0
   4.3
   4.8
   Hct
   26.0
   23.4
   24.4
   22.7
   23.2
   24.0
   Plt
   489
   525
   625
   709
   Cr
   5.3
   5.7
   6.1
   6.4
   6.5
   6.0
   TCO2
   26
   21
   24
   Glucose
   160
   123
   112
   110
   148
   82
   Other labs: PT / PTT / INR:14.8/27.5/1.3, ALT / AST:37/26, Alk Phos / T
   Bili:234/0.6, Amylase / Lipase:231/202, D-dimer:[**Numeric Identifier 7265**] ng/mL,
   Fibrinogen:424 mg/dL, Lactic Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:207
   IU/L, Ca++:7.4 mg/dL, Mg++:2.3 mg/dL, PO4:9.2 mg/dL
   Assessment and Plan
   57 yo man with HIV, h/o splenectomy, presents with acute onset of
   fevers, chills, hypotension, now with septic shock and renal failure.
   # SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)/ LEUKOCYTOSIS
   Pt presented with rigors and fevers, only localizing factor was mild
   abdominal tenderness and diarrhea, as well as progressing hypoxia. Was
   febrile and hypotension in ED and progressed to septic shock. [**3-18**] BCx
   ([**6-12**] 1 am) growing strep viridans Initially required 4 pressors, now
   off pressors, MAPs improved.  Received one dose of IVIG on [**6-13**] for
   concern for group A strep.  Also initially treated with xigris, now
   off. TEE [**6-18**] showed no vegetations.  Gentamicin d/c
d given TEE
   findings. Labs [**6-18**] showed elevated amylase and lipase concerning for
   pancreatitis. Patient also with evidence of oral HSV. Leukocytosis now
   resolved.  Remains afebrile.
   - [**6-27**] = Day 13/24 of pencillin
   - F/U BCx, CVL tip Cx
   .
   # RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Intubated [**6-12**], was initially difficult to ventilate and required
   paralysis with cisatricuronium and FiO2s of 100, PEEP 20, RR of 35
   initially. Now weaning from vent, ABG 7.36/40/117 on FiO2 of 40% with
   PEEP of 8, PS 12. LOS still significantly fluid positive ~ 15 L.
   - d/w renal starting low dose lasix gtt to augment diuresis
   - wean PS/PEEP as tolerated
   - monitor ABGs
   .
   # RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   No history of kidney disease. Had acute renal failure with anuria and
   Creatinine to 4.7 requiring CVVH. Now renal function appears to be
   recovering, off CVVH, UOP increasing 3.4 L urine yesterday, Cr peaked
   at 6.5, now trending down to 6.0.  K to trending down to 5.1.  Last HD
   [**6-21**], temporary HD line pulled [**6-21**], has not been replaced.
   - Per renal holding on dialysis, will follow renal recs
   - Continue to monitor UOP, electrolytes
   .
   # HCT drop: Hct trend-> Has trended down, stable today at 24. Hemolysis
   unlikely as labs LDH 289, haptoglobin 233.  Stools guaiac negative.
   -transfuse to keep HCT > 21
   -guaiac stools
   -continue PPI for stress ulcer prophylaxis
   .
   #MENTAL STATUS: Was previously on fentanyl/versed gtt for sedation,
   weaned off with signs of confusion, concern for benzodiazepine
   withdrawal. Currently sedated on propofol.
   - Transition to bolus fentanyl/versed for sedation.
   .
   #HYPOTENSION. Resolved.
   .
   #THROMBOCYTOPENIA: Resolved. Plts 709.
   - HIT Ab negative
   .
   # Elevated LFTs. AST/ALT consistently elevated, however now with
   elevated alk phos and t bili. Initial RUQ u/s showed edematous
   gallbladder. Per liver concern for shock liver, vs. [**3-18**] sepsis,
   secondary viral infection, or acalculous cholecystitis. Per pharm,
   unlikely related to any of his medications. LFTs continue to trend
   down. CT torso shows mild pancreatitis.  Hep B surface and core AB
   positive, Hep C Ab neg, EBV IgM negative, CMV negative, viral loads
   negative. LFTs have trended down.
   .
   # HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   - per renal will hold HAART until renal function improves
   - f/u ID and renal recs
   .
   # DIABETES MELLITUS (DM), TYPE II
 Goal blood sugars 150-200.
   - continue lantus 12 units
   - ISS
   .
   # SPLENECTOMY. Patient up to date on immunizations.
   .
   #. FEN:TF
s, post pyloric tube feeds, replete lytes prn
   - check amylase, lipase, and TG given treatment with propofol
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2148-6-26**] 02:07 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2148-6-26**] 08:22 PM
   Prophylaxis:
   DVT: Pneumoboots, heparin SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Husband [**Name (NI) 2632**]
   [**Name (NI) 36**] status: Full code
   Disposition: ICU

2148-06-28 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - approx 1.5 L neg
   Allergies:
   Erythromycin Base
   Hives;
   Biaxin (Oral) (Clarithromycin)
   Unknown; Hives;
   Ciprofloxacin
   gum pain;
   Last dose of Antibiotics:
   Acyclovir - [**2148-6-26**] 07:40 AM
   Penicillin G potassium - [**2148-6-28**] 04:17 AM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2148-6-27**] 07:30 AM
   Heparin Sodium (Prophylaxis) - [**2148-6-28**] 12:00 AM
   Midazolam (Versed) - [**2148-6-28**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-6-28**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 74 (71 - 91) bpm
   BP: 120/52(69) {118/51(65) - 154/83(94)} mmHg
   RR: 15 (15 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,651 mL
                                                                    421 mL
   PO:
             TF:
                                                                    240 mL
                                                                     70 mL
   IVF:
                                                                  2,161 mL
                                                                    352 mL
   Blood products:
   Total out:
                                                                  3,890 mL
                                                                  1,960 mL
   Urine:
                                                                  3,890 mL
                                                                    960 mL
   NG:
   Stool:
   1,000 mL
   Drains:
   Balance:
                                                                 -1,239 mL
                                                                 -1,539 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 431 (285 - 460) mL
   PS : 12 cmH2O
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 20 cmH2O
   SpO2: 95%
   ABG: ///19/
   Ve: 6.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   800 K/uL
   7.5 g/dL
   79 mg/dL
   6.6 mg/dL
   19 mEq/L
   5.1 mEq/L
   80 mg/dL
   109 mEq/L
   147 mEq/L
   22.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2148-6-25**]  03:06 AM
                             [**2148-6-25**]  05:39 AM
                             [**2148-6-25**]  03:54 PM
                             [**2148-6-26**]  02:57 AM
                             [**2148-6-26**]  01:30 PM
                             [**2148-6-26**]  05:15 PM
                             [**2148-6-27**]  03:07 AM
                             [**2148-6-27**]  04:19 AM
                             [**2148-6-27**]  04:20 PM
                             [**2148-6-28**]  03:00 AM
   WBC
   6.0
   4.3
   4.8
   6.5
   Hct
   23.4
   24.4
   22.7
   23.2
   24.0
   23.7
   22.8
   Plt
   525
   625
   709
   800
   Cr
   6.1
   6.4
   6.5
   6.0
   6.5
   6.6
   TCO2
   26
   21
   24
   Glucose
   112
   110
   148
   82
   84
   79
   Other labs: PT / PTT / INR:14.8/27.5/1.3, ALT / AST:37/26, Alk Phos / T
   Bili:234/0.6, Amylase / Lipase:79/110, D-dimer:[**Numeric Identifier 7265**] ng/mL,
   Fibrinogen:424 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:207
   IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:11.1 mg/dL
   Assessment and Plan
   57 yo man with HIV, h/o splenectomy, presents with acute onset of
   fevers, chills, hypotension, now with septic shock and renal failure.
   # SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)/ LEUKOCYTOSIS
   Pt presented with rigors and fevers, only localizing factor was mild
   abdominal tenderness and diarrhea, as well as progressing hypoxia. Was
   febrile and hypotension in ED and progressed to septic shock. [**3-18**] BCx
   ([**6-12**] 1 am) growing strep viridans Initially required 4 pressors, now
   off pressors, MAPs improved.  Received one dose of IVIG on [**6-13**] for
   concern for group A strep.  Also initially treated with xigris, now
   off. TEE [**6-18**] showed no vegetations.  Gentamicin d/c
d given TEE
   findings. Labs [**6-18**] showed elevated amylase and lipase concerning for
   pancreatitis. Patient also with evidence of oral HSV. Leukocytosis now
   resolved.  Remains afebrile.
   - [**6-27**] = Day 13/24 of pencillin
   - F/U BCx, CVL tip Cx
   .
   # RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Intubated [**6-12**], was initially difficult to ventilate and required
   paralysis with cisatricuronium and FiO2s of 100, PEEP 20, RR of 35
   initially. Now weaning from vent, ABG 7.36/40/117 on FiO2 of 40% with
   PEEP of 8, PS 12. LOS still significantly fluid positive ~ 15 L.
   - d/w renal starting low dose lasix gtt to augment diuresis
   - wean PS/PEEP as tolerated
   - monitor ABGs
   .
   # RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   No history of kidney disease. Had acute renal failure with anuria and
   Creatinine to 4.7 requiring CVVH. Now renal function appears to be
   recovering, off CVVH, UOP increasing 3.4 L urine yesterday, Cr peaked
   at 6.5, now trending down to 6.0.  K to trending down to 5.1.  Last HD
   [**6-21**], temporary HD line pulled [**6-21**], has not been replaced.
   - Per renal holding on dialysis, will follow renal recs
   - Continue to monitor UOP, electrolytes
   .
   # HCT drop: Hct trend-> Has trended down, stable today at 24. Hemolysis
   unlikely as labs LDH 289, haptoglobin 233.  Stools guaiac negative.
   -transfuse to keep HCT > 21
   -guaiac stools
   -continue PPI for stress ulcer prophylaxis
   .
   #MENTAL STATUS: Was previously on fentanyl/versed gtt for sedation,
   weaned off with signs of confusion, concern for benzodiazepine
   withdrawal. Currently sedated on propofol.
   - Transition to bolus fentanyl/versed for sedation.
   .
   #HYPOTENSION. Resolved.
   .
   #THROMBOCYTOPENIA: Resolved. Plts 709.
   - HIT Ab negative
   .
   # Elevated LFTs. AST/ALT consistently elevated, however now with
   elevated alk phos and t bili. Initial RUQ u/s showed edematous
   gallbladder. Per liver concern for shock liver, vs. [**3-18**] sepsis,
   secondary viral infection, or acalculous cholecystitis. Per pharm,
   unlikely related to any of his medications. LFTs continue to trend
   down. CT torso shows mild pancreatitis.  Hep B surface and core AB
   positive, Hep C Ab neg, EBV IgM negative, CMV negative, viral loads
   negative. LFTs have trended down.
   .
   # HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   - per renal will hold HAART until renal function improves
   - f/u ID and renal recs
   .
   # DIABETES MELLITUS (DM), TYPE II
 Goal blood sugars 150-200.
   - continue lantus 12 units
   - ISS
   .
   # SPLENECTOMY. Patient up to date on immunizations.
   .
   #. FEN:TF
s, post pyloric tube feeds, replete lytes prn
   - check amylase, lipase, and TG given treatment with propofol
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2148-6-27**] 08:48 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2148-6-26**] 08:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-06-29 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   autodiuresing
   decreased lantus
   did well with decreased ps
   Allergies:
   Erythromycin Base
   Hives;
   Biaxin (Oral) (Clarithromycin)
   Unknown; Hives;
   Ciprofloxacin
   gum pain;
   Last dose of Antibiotics:
   Acyclovir - [**2148-6-26**] 07:40 AM
   Penicillin G potassium - [**2148-6-29**] 04:12 AM
   Infusions:
   Fentanyl (Concentrate) - 125 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2148-6-28**] 07:49 AM
   Heparin Sodium (Prophylaxis) - [**2148-6-28**] 07:49 AM
   Midazolam (Versed) - [**2148-6-28**] 07:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-6-29**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 86 (75 - 105) bpm
   BP: 122/59(73) {112/55(70) - 175/105(111)} mmHg
   RR: 26 (15 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,732 mL
                                                                    677 mL
   PO:
             TF:
                                                                    393 mL
                                                                    233 mL
   IVF:
                                                                  1,059 mL
                                                                    244 mL
   Blood products:
   Total out:
                                                                  3,955 mL
                                                                  1,090 mL
   Urine:
                                                                  2,955 mL
                                                                  1,090 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                 -2,223 mL
                                                                   -413 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 473 (364 - 473) mL
   PS : 10 cmH2O
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 148
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: 7.29/43/120/18/-5
   Ve: 11.9 L/min
   PaO2 / FiO2: 300
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   815 K/uL
   7.4 g/dL
   89 mg/dL
   6.1 mg/dL
   18 mEq/L
   4.7 mEq/L
   73 mg/dL
   110 mEq/L
   150 mEq/L
   22.8 %
   8.8 K/uL
        [image002.jpg]
                             [**2148-6-26**]  02:57 AM
                             [**2148-6-26**]  01:30 PM
                             [**2148-6-26**]  05:15 PM
                             [**2148-6-27**]  03:07 AM
                             [**2148-6-27**]  04:19 AM
                             [**2148-6-27**]  04:20 PM
                             [**2148-6-28**]  03:00 AM
                             [**2148-6-28**]  05:01 PM
                             [**2148-6-28**]  05:09 PM
                             [**2148-6-29**]  03:12 AM
   WBC
   4.3
   4.8
   6.5
   8.8
   Hct
   22.7
   23.2
   24.0
   23.7
   22.8
   22.8
   Plt
   625
   709
   800
   815
   Cr
   6.5
   6.0
   6.5
   6.6
   6.2
   6.1
   TCO2
   21
   24
   22
   Glucose
   148
   82
   84
   79
   78
   89
   Other labs: PT / PTT / INR:14.8/27.5/1.3, ALT / AST:37/26, Alk Phos / T
   Bili:234/0.6, Amylase / Lipase:79/110, D-dimer:[**Numeric Identifier 7265**] ng/mL,
   Fibrinogen:424 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:207
   IU/L, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:9.9 mg/dL
   Assessment and Plan
   57 yo man with HIV, h/o splenectomy, presents with acute onset of
   fevers, chills, hypotension, now with septic shock and renal failure.
   # SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)/ LEUKOCYTOSIS
   Pt presented with rigors and fevers, only localizing factor was mild
   abdominal tenderness and diarrhea, as well as progressing hypoxia. Was
   febrile and hypotension in ED and progressed to septic shock. [**3-18**] BCx
   ([**6-12**] 1 am) growing strep viridans Initially required 4 pressors, now
   off pressors, MAPs improved.  Received one dose of IVIG on [**6-13**] for
   concern for group A strep.  Also initially treated with xigris, now
   off. TEE [**6-18**] showed no vegetations.  Gentamicin d/c
d given TEE
   findings. Labs [**6-18**] showed elevated amylase and lipase concerning for
   pancreatitis. Patient also with evidence of oral HSV s/p acyclovir rx.
   Leukocytosis now resolved.  Remains afebrile.
   - [**6-27**] = Day 13/24 of pencillin
   - F/U BCx, CVL tip Cx
   .
   # RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Intubated [**6-12**], was initially difficult to ventilate and required
   paralysis with cisatricuronium and FiO2s of 100, PEEP 20, RR of 35
   initially. Attempt to wean PS resulted in elevated minute ventilation
   and patient discomfort.
   - autodiuresing
   - wean PS/PEEP as tolerated
   - monitor ABGs
   .
   # RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   No history of kidney disease. Had acute renal failure with anuria and
   Creatinine to 4.7 requiring CVVH. Now renal function appears to be
   recovering, off CVVH, UOP increasing 3.4 L urine yesterday, Cr stable
   between 6.0-6.5.  K to trending down to 5.1.  Last HD [**6-21**], temporary HD
   line pulled [**6-21**], has not been replaced.
   - Per renal holding on dialysis, will follow renal recs
   - Continue to monitor UOP, electrolytes
   .
   # HCT drop: Hct stable today at 23. Hemolysis unlikely as labs LDH 289,
   haptoglobin 233.  Stools guaiac negative.
   -transfuse to keep HCT > 21
   -guaiac stools
   -continue PPI for stress ulcer prophylaxis
   .
   #MENTAL STATUS: Was previously on fentanyl/versed gtt for sedation,
   weaned off with signs of confusion, concern for benzodiazepine
   withdrawal. Currently sedated on propofol.
   - Transition to bolus fentanyl/versed for sedation.
   .
   # Hypovolemic hypernatremia: increase free water in TF.
   .
   #HYPOTENSION. Resolved.
   .
   #THROMBOCYTOPENIA: Resolved. Plts 709.
   - HIT Ab negative
   .
   # Elevated LFTs. AST/ALT consistently elevated, however now with
   elevated alk phos and t bili. Initial RUQ u/s showed edematous
   gallbladder. Per liver concern for shock liver, vs. [**3-18**] sepsis,
   secondary viral infection, or acalculous cholecystitis. Per pharm,
   unlikely related to any of his medications. LFTs continue to trend
   down. CT torso shows mild pancreatitis.  Hep B surface and core AB
   positive, Hep C Ab neg, EBV IgM negative, CMV negative, viral loads
   negative. LFTs have trended down.
   .
   # HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   - per renal will hold HAART until renal function improves
   - f/u ID and renal recs
   .
   # DIABETES MELLITUS (DM), TYPE II
 Goal blood sugars 150-200.
   - decrease lantus to 8 units
   - ISS
   .
   # SPLENECTOMY. Patient up to date on immunizations.
   .
   #. FEN:TF
s, post pyloric tube feeds, replete lytes prn
   - check amylase, lipase, and TG given treatment with propofol
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2148-6-29**] 04:12 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2148-6-26**] 08:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-06-30 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Extubated successfully [**6-29**].  No acute events overnight.
 INVASIVE VENTILATION - STOP [**2148-6-29**] 12:20 PM
   Allergies:
   Erythromycin Base
   Hives;
   Biaxin (Oral) (Clarithromycin)
   Unknown; Hives;
   Ciprofloxacin
   gum pain;
   Last dose of Antibiotics:
   Penicillin G potassium - [**2148-6-30**] 04:11 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2148-6-29**] 08:22 AM
   Heparin Sodium (Prophylaxis) - [**2148-6-30**] 12:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-6-30**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.5
C (97.7
   HR: 76 (68 - 86) bpm
   BP: 124/48(66) {108/47(65) - 144/105(109)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,181 mL
                                                                    720 mL
   PO:
             100 mL
   TF:
                                                                    651 mL
   IVF:
                                                                    760 mL
                                                                    220 mL
   Blood products:
   Total out:
                                                                  3,930 mL
                                                                    545 mL
   Urine:
                                                                  3,430 mL
                                                                    545 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                 -1,749 mL
                                                                    175 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 332 (332 - 359) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 6 cmH2O
   SpO2: 97%
   ABG: 7.34/41/74/21/-3
   Ve: 8.4 L/min
   PaO2 / FiO2: 185
   Physical Examination
   General: awake, NAD
   Chest: Coarse breath sounds bilaterally
   CV: distant heart sounds, RRR
   Abd: Obese, soft, NT, ND
   Ext: trace edema bl
   Neurologic: awake, alert, oriented x 2 ([**2148-5-15**])
   Labs / Radiology
   788 K/uL
   6.9 g/dL
   78 mg/dL
   5.5 mg/dL
   21 mEq/L
   4.2 mEq/L
   66 mg/dL
   112 mEq/L
   149 mEq/L
   21.1 %
   10.1 K/uL
        [image002.jpg]
                             [**2148-6-27**]  04:19 AM
                             [**2148-6-27**]  04:20 PM
                             [**2148-6-28**]  03:00 AM
                             [**2148-6-28**]  05:01 PM
                             [**2148-6-28**]  05:09 PM
                             [**2148-6-29**]  03:12 AM
                             [**2148-6-29**]  11:49 AM
                             [**2148-6-29**]  03:53 PM
                             [**2148-6-29**]  05:25 PM
                             [**2148-6-30**]  03:23 AM
   WBC
   6.5
   8.8
   10.1
   Hct
   23.7
   22.8
   22.8
   21.1
   Plt
   [**Telephone/Fax (3) 7591**]
   Cr
   6.5
   6.6
   6.2
   6.1
   5.8
   5.5
   TCO2
   24
   22
   24
   23
   Glucose
   84
   79
   78
   89
   113
   78
   Other labs: PT / PTT / INR:14.8/27.5/1.3, ALT / AST:37/26, Alk Phos / T
   Bili:234/0.6, Amylase / Lipase:79/110, D-dimer:[**Numeric Identifier 7265**] ng/mL,
   Fibrinogen:424 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.5 g/dL, LDH:207
   IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:7.3 mg/dL
   Assessment and Plan
   57 yo man with HIV, h/o splenectomy, presents with acute onset of
   fevers, chills, hypotension, now with septic shock and renal failure.
   # Respiratory failure:  Extubated successfully [**6-29**].  Oxygenating well
   on nasal cannula.
   # Sepsis: Strep viridans on penicillin d 19/28.
   # ARF: Unclear etiology for acute failure, likely ATN in setting of
   hypotension/sepsis. Now, Cre trending down in the setting of
   autodiuresis.  K stable and within normal level.
   - continue to monitor creatinine during autodiuresis
   - consider HD if worsened RF and anuria.
   # Anemia: Possibly renal failure/epo related. Hct  continues to be
   stable today at 23.
   - monitor
   # Hypovolemic hypernatremia: Taking in some PO, for now continue  free
   water in TF.
   # HIV:
   - hold HAART until renal function improves
   - f/u ID and renal recs
   # DMII: Goal blood sugars 150-200.
   - lantus at 8 units, consider further decrease as needed
   - ISS
   ICU Care
   Nutrition:
   Glycemic Control:  ISS
   Lines:
   Midline - [**2148-6-26**] 08:22 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  Will call out to floor today.